2122-12-20 05:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Pt underwent ERCP yesterday which showed two irregular stones in the
   common bile duct ( one impacted in the ampulla) and common hepatic
   duct. Mild dilation of the biliary tree and drainage of infected black
   bile.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-12-19**] 07:26 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-20**] 01:24 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2122-12-20**] 03:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-12-20**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.7
C (98.1
   HR: 119 (73 - 119) bpm
   BP: 109/67(73) {82/19(40) - 136/78(88)} mmHg
   RR: 26 (11 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,889 mL
                                                                    620 mL
   PO:
             TF:
   IVF:
                                                                  3,889 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                    540 mL
                                                                    150 mL
   Urine:
                                                                    540 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,349 mL
                                                                    470 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 282 (282 - 282) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 10 cmH2O
   Plateau: 12 cmH2O
   SpO2: 98%
   ABG: 7.33/36/116/16/-6
   Ve: 12.7 L/min
   PaO2 / FiO2: 290
   Physical Examination
   GEN: Well-nourished elderly Caucasian Male intubated able to open eyes
   and follow simple commands with visual prompting (pt is deaf)
   HEENT: EOMI, PERRL, sclera anicteric
   NECK: No JVD, carotid pulses brisk, no bruits, no cervical
   lymphadenopathy, trachea midline
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: Lungs CTAB, no W/R/R
   ABD: Soft, facial grimacing on palpation of RUQ, ND, +BS
   EXT: No C/C/E, no palpable cords
   Labs / Radiology
   209 K/uL
   13.2 g/dL
   115 mg/dL
   2.4 mg/dL
   16 mEq/L
   4.6 mEq/L
   42 mg/dL
   112 mEq/L
   141 mEq/L
   39.1 %
   24.3 K/uL
        [image002.jpg]
                             [**2122-12-19**]  07:30 PM
                             [**2122-12-20**]  02:13 AM
   WBC
   24.3
   Hct
   39.1
   Plt
   209
   Cr
   2.4
   TropT
   1.00
   TCO2
   20
   Glucose
   115
   Other labs: PT / PTT / INR:13.5/31.1/1.2, CK / CKMB /
   Troponin-T:282/8/1.00, ALT / AST:331/255, Alk Phos / T Bili:143/4.3,
   Amylase / Lipase:1769/1702, Ca++:6.9 mg/dL, Mg++:1.4 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
 PANCREATITIS, ACUTE
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   # Pancreatitis/Cholangitis: Pt noted to have cholangitis and
   pancreatitis on ERCP examination, two stones were extracted from the
   ampulla and common hepatic duct, a sphincterotomy was performed. Pt
   received approx 4.5L  NS IVF hydration for his pancreatitis. LFTs and
   Lipase this AM show a downward trend.
   - Will continue Zosyn for enteric coverage and Vancomycin for Gram
   positive coverage
   - Will continue IVF 150cc/hr LR maintenance
   - NPO
   - Morphine 2-4mg  q4hr IV PRN pain
   .
   #. Hypotension: After induction yesterday pt was noted to be
   hypotensive to the SBP 70s, on arrival to the floor pt was on pressor
   support however after transfer to his bed his MAPs were noted to be >65
   without pressor support. Since this event pt
s SBP have ranged from mid
   80s to 110s and appear to be fluid responsive. Current hypotension most
   likely hypovolemic given the fluid loss involved with pancreatitis.
   Will continue to IVF bolus with LR for a goal MAP >65.
   - IVF fluid for MAPs >65
   .
   # [**Last Name (un) **] on CKD: Pt has histroy of CKD with a baseline Creatinine of
   1.7-1.9. Pt's Creatinine currently elevated at 2.4 increased from 2.2.,
   most likely pre-renal versus ATN given his pancreatitis. In spite of
   the increase in pressure pt
s UOP has still remained borderline which
   may indicate a marker of pre-renal failure. However given the large
   amount of lfuids received since his ERCP his renal output has not shown
   any vast improvement. Will obtain urine lytes in case pt is in ATN and
   will eventually have an increase in UOP.
   - Will renally dose all medications
   - Avoid nephrotoxins
   - Trend Creatinine
   - Obtain urine lytes
   - Will currently hold on AEI and [**Last Name (un) **] therapy
   .
   # DM II: Per [**Name (NI) **] pt usually takes Glyburide 5mg once a day, will
   transition pt to insulin sliding scale particularly given his NPO
   status and likely increased insulin needs given his infectious state.
   - Check CBGs qACHS
   - Start on ISS and assess Lantus dose based on 24 hour insulin
   requirements
   - Will transition back to Glyburide prior to discharge
   - Will currently hold ACEI and [**Last Name (un) **] therapy given pt's current [**Last Name (un) **].
   .
   # systolic CHF: Pt on prior echo noted to have a reduced EF of 40% with
   a fixed Apical defect. Pt on afterload therapy with Lisinopril and
   Valsartan per [**Last Name (un) 2040**].
   - Will currently hold ACEI and [**Last Name (un) **] as pt has [**Last Name (un) **]
   - Will use caution with IVF hydration given depressed systolic function
   .
   #  Sinus Tachycardia: Pt has been tachycardic since presentation to the
   ED, although there was a period on the unti prior to the ERCP that his
   heart was in the normal range. Pt currently is afebrile, has low
   suspicion for PE given lack of hypoxia in relation to his level of
   tachycardia. Pt does seem to still be hypovolemic, will continue MIVF
   and monitor response and pt
s tachycardia. Pt is still receovering from
   a severe infection, may still be in  an inflammatory/infectious state.
   # Access: 2 PIV
   .
   # PPx: Pantoprazole, Heparin SC TID
   .
   # Code:  FULL CODE
   .
   # Comm: (Son) [**Name (NI) 5449**] [**Telephone/Fax (1) 5450**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2122-12-19**] 04:00 PM
   18 Gauge - [**2122-12-19**] 05:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2122-12-20 10:02:00 Physician Attending Progress Note
Chief Complaint: abdominal pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo Russian-signing male with CHF, DM, HTN admitted with abdominal
   pain, nausea. In ED he was tachycardic but not hypotensive. Labs and CT
   scan suggested cholangitis/pancreatitis. During ERCP, large stones in
   ampulla and common hepatic duct, both retrieved with sphincterotomy. Pt
   electively intubated pre-rpcoedure, did drop pressures requiring
   neosynephrine.
   After arrival to [**Name (NI) 1**], pt extubated and pressors weaned off.
   24 Hour Events:
   Pt remained in [**Last Name (un) 531**] 110's.
   SBP drifts to 80's requiring fluid resuscitation.
   Low grade fevers
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-12-19**] 07:26 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-20**] 08:42 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2122-12-20**] 03:20 AM
   Heparin Sodium (Prophylaxis) - [**2122-12-20**] 06:14 AM
   Other medications:
   aspirin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-12-20**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.9
   HR: 106 (73 - 119) bpm
   BP: 102/36(52) {82/19(40) - 136/78(88)} mmHg
   RR: 29 (11 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,889 mL
                                                                  1,909 mL
   PO:
             TF:
   IVF:
                                                                  3,889 mL
                                                                  1,809 mL
   Blood products:
   Total out:
                                                                    540 mL
                                                                    210 mL
   Urine:
                                                                    540 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,349 mL
                                                                  1,699 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 282 (282 - 282) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 10 cmH2O
   Plateau: 12 cmH2O
   SpO2: 96%
   ABG: 7.33/36/116/16/-6
   Ve: 12.7 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , Diminished: left base)
   Abdominal: Bowel sounds present, Distended, mild RUQ tenderness
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   13.2 g/dL
   209 K/uL
   115 mg/dL
   2.4 mg/dL (baseline 1.3)
   16 mEq/L (AG 13)
   4.6 mEq/L
   42 mg/dL
   112 mEq/L
   141 mEq/L
   39.1 %
   24.3 K/uL
        [image002.jpg]
                             [**2122-12-19**]  07:30 PM
                             [**2122-12-20**]  02:13 AM
   WBC
   24.3 (unchanged)
   Hct
   39.1
   Plt
   209
   Cr
   2.4
   TropT
   1.00
   TCO2
   20
   Glucose
   115
   Other labs: PT / PTT / INR:13.5/31.1/1.2, CK / CKMB /
   Troponin-T:282/8/1.00, ALT / AST:331/255, Alk Phos / T Bili:143/4.3,
   Amylase / Lipase:1769/1702 (trending down), Ca++:6.9 mg/dL, Mg++:1.4
   mg/dL, PO4:3.4 mg/dL
   Microbiology: Bd cx's negative to date
   Assessment and Plan
 PANCREATITIS, ACUTE
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   Cholangitis
   Pancreatitis
   NSTEMI
   Acute on chronic renal failure
   Hypotension
   Acidosis
   83 yo male with stone admitted with:
   *Pancreatitis/cholangitis- abdominal exam and blood markers improving,
   pt ok'd by ERCP team to advance diet
      Continue to monitor I's and O's, fluid resuscitation, and continue
   Vanc/Zosyn
   *Acute on chronic renal failure: appears pre-renal +ATN. Will avoid
   nephrotoxins and trend Cr.
   *NSTEMI: Trop 0.89-->1, CK-MB's negative. Cycling enzymes to monitor
   trend
   *DM: On SSI
   Rest of plan as per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2122-12-19**] 04:00 PM
   18 Gauge - [**2122-12-19**] 05:51 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2122-12-21 07:52:00 Physician Resident Progress Note
Chief Complaint: s/p ERCP
   24 Hour Events:
   - His diet was advanced to clears.
   - FENA was 0.5% and UA showed 3 WBC, few back, but neg leuk or nitrite.
   - Was given 500 cc and a 250 cc LR bolus today.
   - During the day his HR slowly trended up, appeared to be sinus tachy.
   His foley was pulled given his persistent discomfort with it.
   - His pm labs showed worsening ARF with Cr 2.4 --> 3.6 and K increasing
   to 5.5.  He was started on 12.5 mg of metoprolol tid for his
   tachycardia (is on 25 of XL daily at home) and kayexalate for his
   hyperkalemia. ? CK leak [**12-21**] demand in setting of tachycardia. Trops
   flat.
   - His UOP continues to decrease throughout the day. ? ATN ? Renal
   consult today. Fluid boluses did not help.
   Note: Was on pressors only during ERCP. Now extubated and doing well.
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-12-19**] 07:26 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-21**] 03:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-12-21**] 06:45 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: limited [**12-21**] language barrier- pt is congenitally
   deaf and speaks only Russian sign
   Gastrointestinal: Abdominal pain
   Pain: [**11-20**] Minimal
   Flowsheet Data as of  [**2122-12-21**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 106 (93 - 127) bpm
   BP: 105/58(68) {90/36(50) - 131/96(90)} mmHg
   RR: 31 (15 - 34) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,883 mL
                                                                    178 mL
   PO:
                                                                    330 mL
             TF:
   IVF:
                                                                  3,453 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                      0 mL
   Urine:
                                                                    380 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  3,103 mL
                                                                    178 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///13/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, Tender: at RLQ
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   217 K/uL
   12.0 g/dL
   256 mg/dL
   4.3 mg/dL
   13 mEq/L
   4.2 mEq/L
   60 mg/dL
   102 mEq/L
   135 mEq/L
   36.3 %
   27.0 K/uL
        [image002.jpg]
                             [**2122-12-19**]  07:30 PM
                             [**2122-12-20**]  02:13 AM
                             [**2122-12-20**]  04:55 PM
                             [**2122-12-21**]  04:14 AM
   WBC
   24.3
   27.0
   Hct
   39.1
   36.3
   Plt
   209
   217
   Cr
   2.4
   3.6
   4.3
   TropT
   1.00
   1.22
   1.38
   TCO2
   20
   Glucose
   115
   212
   256
   Other labs: PT / PTT / INR:13.7/28.8/1.2, CK / CKMB /
   Troponin-T:735/21/1.38, ALT / AST:224/117, Alk Phos / T Bili:100/1.5,
   Amylase / Lipase:1769/1702, LDH:575 IU/L, Ca++:6.9 mg/dL, Mg++:1.8
   mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
 OLIGURIA/ANURIA
 PANCREATITIS, ACUTE
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   # Pancreatitis/Cholangitis: Pt noted to have cholangitis and
   pancreatitis on ERCP examination, two stones were extracted from the
   ampulla and common hepatic duct, a sphincterotomy was performed. Pt
   received approx 4.5L  NS IVF hydration for his pancreatitis. LFTs and
   Lipase this AM show a downward trend.
   - Will continue Zosyn for enteric coverage and Vancomycin for Gram
   positive coverage
   - Will continue IVF 150cc/hr LR maintenance
   - Will trial on clears and ADAT
   - Morphine 2-4mg  q4hr IV PRN pain
   - Pt still hypovolemic, Pancreatitis fluid needs similar to burn pt
   needs, will continue 500cc LR bolus x 2. Pt
s PO intake should also
   increase with clear diet in place.
   .
   #. Hypotension: After induction yesterday pt was noted to be
   hypotensive to the SBP 70s, on arrival to the floor pt was on pressor
   support however after transfer to his bed his MAPs were noted to be >65
   without pressor support. Since this event pt
s SBP have ranged from mid
   80s to 110s and appear to be fluid responsive. Current hypotension most
   likely hypovolemic given the fluid loss involved with pancreatitis.
   Will continue to IVF bolus with LR for a goal MAP >65.
   - IVF fluid for MAPs >65
   .
   # [**Last Name (un) **] on CKD: Pt has histroy of CKD with a baseline Creatinine of
   1.7-1.9. Pt's Creatinine currently elevated at 2.4 increased from 2.2.,
   most likely pre-renal versus ATN given his pancreatitis. In spite of
   the increase in pressure pt
s UOP has still remained borderline which
   may indicate a marker of pre-renal failure.
   - Will renally dose all medications
   - Avoid nephrotoxins
   - Trend Creatinine
   - Obtain urine lytes
   - Will currently hold on AEI and [**Last Name (un) **] therapy
   .
   # DM II: Per [**Name (NI) **] pt usually takes Glyburide 5mg once a day, will
   transition pt to insulin sliding scale particularly given his NPO
   status and likely increased insulin needs given his infectious state.
   - Check CBGs qACHS
   - Will continue ISS as pt is only on clears diet, will switch to Lantus
   coverage when pt tolerates solid PO.
   - Will transition back to Glyburide prior to discharge
   - Will currently hold ACEI and [**Last Name (un) **] therapy given pt's current [**Last Name (un) **].
   .
   # systolic CHF: Pt on prior echo noted to have a reduced EF of 40% with
   a fixed Apical defect. Pt on afterload therapy with Lisinopril and
   Valsartan per [**Last Name (un) 2040**].
   - Will currently hold ACEI and [**Last Name (un) **] as pt has [**Last Name (un) **]
   - Will use caution with IVF hydration given depressed systolic function
   .
   #  Sinus Tachycardia: Pt has been sinus tachycardic overnight, sinus
   tachycardia most likely a component of his still present hypovolemia
   and pain.
   # Access: 2 PIV
   .
   # PPx: Pantoprazole, Heparin SC TID
   .
   # Code:  FULL CODE
   .
   # Comm: (Son) [**Name (NI) 5449**] [**Telephone/Fax (1) 5450**]
   ICU Care
   Nutrition: clear liquids
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2122-12-19**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2122-12-21 11:25:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Cholangitis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tachycardia
   Hyperkalemia
   Mild increased in CK with tachycardia
   Oliguria complicated by Renal Failure has evolved in past 24 hours
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-12-19**] 07:26 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-21**] 08:07 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-12-21**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2122-12-21**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 101 (93 - 127) bpm
   BP: 106/51(57) {90/47(57) - 131/103(110)} mmHg
   RR: 27 (15 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,883 mL
                                                                    431 mL
   PO:
                                                                    330 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  3,453 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                      0 mL
   Urine:
                                                                    380 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  3,103 mL
                                                                    431 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///13/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : ), (Breath Sounds:
   Diminished: )
   Abdominal: No(t) Non-tender, Bowel sounds present, Distended, Obese,
   Mild RLQ tenderness
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed, Language Barrier
   Labs / Radiology
   12.0 g/dL
   217 K/uL
   256 mg/dL
   4.3 mg/dL
   13 mEq/L
   4.2 mEq/L
   60 mg/dL
   102 mEq/L
   135 mEq/L
   36.3 %
   27.0 K/uL
        [image002.jpg]
                             [**2122-12-19**]  07:30 PM
                             [**2122-12-20**]  02:13 AM
                             [**2122-12-20**]  04:55 PM
                             [**2122-12-21**]  04:14 AM
   WBC
   24.3
   27.0
   Hct
   39.1
   36.3
   Plt
   209
   217
   Cr
   2.4
   3.6
   4.3
   TropT
   1.00
   1.22
   1.38
   TCO2
   20
   Glucose
   115
   212
   256
   Other labs: PT / PTT / INR:13.7/28.8/1.2, CK / CKMB /
   Troponin-T:735/21/1.38, ALT / AST:224/117, Alk Phos / T Bili:100/1.5,
   Amylase / Lipase:1769/1702, LDH:575 IU/L, Ca++:6.9 mg/dL, Mg++:1.8
   mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   83 yo male with h/o deafness and now s/p ERCP and with initial
   presentation with sepsis and with 2 stones removed aptient has had
   successful extubation and wean of pressors.   Patient did evolve early
   renal failure with suggesting of ATN as primary insult.  He has had
   some improvement in abdominal exam over time with procedure completed
   but has persistent renal failure.
   1)Cholangitis-
   Vanco/Zosyn
   -Continue to advance diet per GI
   2)Acute Renal Failure-Likley ATN, will need to follow urine flow, at
   this point is severely impaired
   -Maintain euvolemia
   -Follow Urine output
   -Renal to consult and follow
   -Renal dose all meds
   3)Sepsis-
   -WBC remains elevated
   -Will need to follow exam for recurrence
   -Continued antibiotic course
   -Patient OOB to chair to day and early mobilization as possible
 OLIGURIA/ANURIA
 PANCREATITIS, ACUTE
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   ICU Care
   Nutrition: Clear Liquids
   Glycemic Control:
   Lines:
   20 Gauge - [**2122-12-19**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Will need to get sign language translator in
   place
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2122-12-22 07:13:00 Physician Resident Progress Note
Chief Complaint: s/p ERCP and cholangitis
   24 Hour Events:
 ULTRASOUND - At [**2122-12-21**] 02:56 PM
 MULTI LUMEN - START [**2122-12-21**] 08:00 PM
 ULTRASOUND - At [**2122-12-21**] 08:25 PM
   LENIs
 TRANSTHORACIC ECHO - At [**2122-12-21**] 09:25 PM
 BLOOD CULTURED - At [**2122-12-21**] 09:33 PM
   Developed hypotension to 60's/40's
   -Seen by renal: No muddy brown casts, asked to check VBG and started on
   bicarb
   -checked cardiac enzymes
   -LIJ placed for hypotension, levophed started later in evening
   -concern for acute PE -> started on heparin gtt; ECHO done by cards,
   largely unremarkable w/ no RV dysfxn/dilation/strain; LENIs done
   -Mildly acidotic, ph 7.3, w/ respiratory compensation, so increased
   bicarb to 1300 [**Hospital1 **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-12-21**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-22**] 02:32 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-12-21**] 04:53 PM
   Heparin Sodium - [**2122-12-21**] 06:25 PM
   Lorazepam (Ativan) - [**2122-12-22**] 12:00 AM
   Morphine Sulfate - [**2122-12-22**] 04:43 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:  limited [**12-21**] language barrier
   Flowsheet Data as of  [**2122-12-22**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 105 (99 - 128) bpm
   BP: 107/42(56) {61/33(40) - 153/103(110)} mmHg
   RR: 22 (14 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 10 (10 - 10)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  2,638 mL
                                                                    727 mL
   PO:
                                                                    120 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,518 mL
                                                                    487 mL
   Blood products:
   Total out:
                                                                    125 mL
                                                                     58 mL
   Urine:
                                                                    125 mL
                                                                     58 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,513 mL
                                                                    669 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.32/24/139/14/-11
   PaO2 / FiO2: 278
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases bilat)
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   188 K/uL
   9.8 g/dL
   213 mg/dL
   5.7 mg/dL
   14 mEq/L
   3.7 mEq/L
   72 mg/dL
   103 mEq/L
   135 mEq/L
   29.6 %
   18.3 K/uL
        [image002.jpg]
                             [**2122-12-19**]  07:30 PM
                             [**2122-12-20**]  02:13 AM
                             [**2122-12-20**]  04:55 PM
                             [**2122-12-21**]  04:14 AM
                             [**2122-12-21**]  03:54 PM
                             [**2122-12-22**]  01:21 AM
                             [**2122-12-22**]  01:35 AM
                             [**2122-12-22**]  05:55 AM
                             [**2122-12-22**]  06:06 AM
   WBC
   24.3
   27.0
   22.7
   18.3
   Hct
   39.1
   36.3
   34.0
   29.6
   Plt
   [**Telephone/Fax (3) 5510**]88
   Cr
   2.4
   3.6
   4.3
   5.1
   5.7
   TropT
   1.00
   1.22
   1.38
   1.30
   TCO2
   20
   13
   13
   Glucose
   115
   212
   256
   135
   213
   Other labs: PT / PTT / INR:13.3/90.7/1.1, CK / CKMB /
   Troponin-T:1505/21/1.30, ALT / AST:224/117, Alk Phos / T Bili:100/1.5,
   Amylase / Lipase:1769/1702, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:9.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 5503**] ng/mL, Lactic
   Acid:2.5 mmol/L, LDH:575 IU/L, Ca++:6.9 mg/dL, Mg++:1.8 mg/dL, PO4:5.4
   mg/dL
   Assessment and Plan
 OLIGURIA/ANURIA
 PANCREATITIS, ACUTE
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   83 yo M w/ h/o congenital deafness, HTN, DM, CAD, osteoarthritis and L
   subclavian steal syndrome admitted s/p ERCP for cholangitis now with
   ARF, resp failure.
   # [**Last Name (un) **] on CKD: Pt has history of CKD with a baseline Creatinine of
   1.7-1.9. Pt's Creatinine today 5.9. Also with metabolic acidosis likely
   [**12-21**] lactic acidosis and ARF . ? etiology of ARF with absence of muddy
   brown casts yesterday on microscopic urine exam
   - Renal today placed femoral HD line and starting CVVH
   - Renally dosing meds incl Vanco Q 24 while on CVVH.
   - Avoid nephrotoxins
   - Will currently hold on AEI and [**Last Name (un) **] therapy
   -F/u any other renal recs
   # Resp failure- pt with resp failure today likely [**12-21**] hyperventilation
   for >24 hrs with metabolic acidosis.
   -Intubated
   -On fentanyl, versed for sedation
   -AM CXR.
   # Pancreatitis/Cholangitis: Pt noted to have cholangitis and
   pancreatitis on ERCP examination, two stones were extracted from the
   ampulla and common hepatic duct, a sphincterotomy was performed [**12-19**].
   Pt received approx 4.5L  NS IVF hydration for his pancreatitis. LFTs
   showing downward trend as of yesterday.
   - Will continue vanc/  Zosyn for enteric coverage at renal dosing
   - NPO
   .
   #. Hypotension: After induction [**12-19**] pt was noted to be hypotensive to
   the SBP 70s, on arrival to the floor pt was on pressor support however
   after transfer to his bed his MAPs were noted to be >65 without pressor
   support.  Pt again hypotensive [**12-21**] not responsive to fluids.  ?
   etiology cardiac ischemia with continuing CK and trop elevation, PE,
   tamponade (but EKG unchanged), sepsis. Hypotensive again today and back
   on levo. ? PE. Bilat LENI
s yesterday neg, bedside echo with no sign RV
   strain. Cannot to CTA given ARF.
   - levo wean as tolerdated
   -heparin gtt until V/Q  scan able to be performed once pt is stable.
   .
   # DM II: Per [**Name (NI) 2040**] pt usually takes Glyburide 5mg once a day, On insulin
   for now.
   - Check CBGs qACHS
   - Will continue ISS
   - Will transition back to Glyburide prior to discharge
   - Will currently hold ACEI and [**Last Name (un) **] therapy given pt's current [**Last Name (un) **].
   .
   # systolic CHF: Pt on afterload therapy with Lisinopril and Valsartan
   per [**Last Name (un) 2040**]. TTE [**12-21**] with moderate LVH, LVEF 45-50%
   - Will currently hold ACEI and [**Last Name (un) **] as pt has [**Last Name (un) **]
   - recheck TTE ordered
   .
   #  Sinus Tachycardia: Pt had been sinus tachycardic [**12-21**] most likely [**12-21**]
   hypovolemia and pain.
   # Access: 2 PIV, A line,  CVL  .
   # PPx: Pantoprazole, Heparin gtt.
   # Code:  FULL CODE
   # Comm: (Son) [**Name (NI) 5449**] [**Telephone/Fax (1) 5450**]
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2122-12-21**] 05:00 PM
   Multi Lumen - [**2122-12-21**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2122-12-22 08:57:00 Physician Attending Progress Note
Chief Complaint: Cholangitis
   Acute Renal Failure
   Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2122-12-21**] 02:56 PM
 MULTI LUMEN - START [**2122-12-21**] 08:00 PM
 ULTRASOUND - At [**2122-12-21**] 08:25 PM
   LENIs
 TRANSTHORACIC ECHO - At [**2122-12-21**] 09:25 PM
 BLOOD CULTURED - At [**2122-12-21**] 09:33 PM
   -ECHO--No evidence of RV dilation or pressure/volume overload
   -LENI pending
   -Persistent acidemia with AG acidosis
   -Hypotension requiring CVL placement and Levophed started overnight
   -Heparin started to treat PE empricially given acute decompensation and
   possible PE as unifying diagnosis.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-12-21**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-22**] 07:49 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-12-21**] 04:53 PM
   Heparin Sodium - [**2122-12-21**] 06:25 PM
   Lorazepam (Ativan) - [**2122-12-22**] 12:00 AM
   Morphine Sulfate - [**2122-12-22**] 04:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, Tachycardia
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2122-12-22**] 08:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 112 (99 - 128) bpm
   BP: 128/53(72) {61/33(40) - 153/82(83)} mmHg
   RR: 27 (14 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 16 (10 - 16)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  2,638 mL
                                                                    930 mL
   PO:
                                                                    120 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,518 mL
                                                                    690 mL
   Blood products:
   Total out:
                                                                    125 mL
                                                                     58 mL
   Urine:
                                                                    125 mL
                                                                     58 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,513 mL
                                                                    872 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.32/24/139/14/-11
   PaO2 / FiO2: 278
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   188 K/uL
   216 mg/dL
   6.0 mg/dL
   14 mEq/L
   3.6 mEq/L
   77 mg/dL
   102 mEq/L
   136 mEq/L
   29.6 %
   18.3 K/uL
        [image002.jpg]
                             [**2122-12-19**]  07:30 PM
                             [**2122-12-20**]  02:13 AM
                             [**2122-12-20**]  04:55 PM
                             [**2122-12-21**]  04:14 AM
                             [**2122-12-21**]  03:54 PM
                             [**2122-12-22**]  01:21 AM
                             [**2122-12-22**]  01:35 AM
                             [**2122-12-22**]  05:55 AM
                             [**2122-12-22**]  06:06 AM
   WBC
   24.3
   27.0
   22.7
   18.3
   Hct
   39.1
   36.3
   34.0
   29.6
   Plt
   [**Telephone/Fax (3) 5510**]88
   Cr
   2.4
   3.6
   4.3
   5.1
   5.7
   6.0
   TropT
   1.00
   1.22
   1.38
   1.30
   TCO2
   20
   13
   13
   Glucose
   115
   212
   256
   135
   213
   216
   Other labs: PT / PTT / INR:14.0/89.9/1.2, CK / CKMB /
   Troponin-T:1434/21/1.30, ALT / AST:124/73, Alk Phos / T Bili:62/0.7,
   Amylase / Lipase:1769/1702, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:9.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 5503**] ng/mL, Lactic
   Acid:2.5 mmol/L, LDH:556 IU/L, Ca++:6.3 mg/dL, Mg++:1.8 mg/dL, PO4:7.1
   mg/dL
   Fluid analysis / Other labs: ABG--2 lpm NC
   7.32/24/139
   Imaging: CXR---IJ in good position
   Assessment and Plan
   83 yo male with admission for CBD stone complicated by cholangitis and
   had ERCP for relief of obstruction .  This has been complicated by ARF
   and hypotension.  Patient does have persistent elevation in CK with
   slight trend down.  He remains with mild elevations of transaminases
   but no trend to increase.   Importantly he does have continued near
   anuria and increase in Cr to 6.0 today. By problems
   1)Hypotension
Most likely a combination of pre-load dependent state
   with improvement with volume support and with CVP now elevated have
   been able to wean pressors to off this morning.  As far as the acute
   changes of yesterday PE is possible, acute transmural injury appears
   less likely to myocardium based on ECHO and ECG.  Enzymes are
   equivocal.  He does hot have fever, WBC is falling, no evidence of
   pericardial tamponade.  In regards to intra-abdominal source exam has
   been stable.
   -Will wean Levophed to off
   -Would Rx for PE empirically with heparin until able to reassure
   -Will check Lipase, Amylase, Lactate, LFT
s today and follow exam
   -Follow CVP
   2)Acute Renal Failure
Significant and persistent anuria and need for
   CVVH based upon volume, acidemia
   -CVVH today
   -Heparin to hold prior to line placement
   -Will need HCO3- replacement
   -VBG
s for acid base process
   3)Cholangitis-
   -Continue with Vanco/Zosyn
   -Dose renally
 OLIGURIA/ANURIA
 PANCREATITIS, ACUTE
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   -Zosyn
   ICU Care
   Nutrition: po diet today
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-12-21**] 05:00 PM
   Multi Lumen - [**2122-12-21**] 08:00 PM
   Prophylaxis:
   DVT: IV Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition : ICU
   Total time spent: 45

2122-12-23 07:03:00 Physician Resident Progress Note
Chief Complaint: s/p ERCP, ARF, Resp failure
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2122-12-22**] 11:29 AM
 NON-INVASIVE VENTILATION - STOP [**2122-12-22**] 11:55 AM
 INVASIVE VENTILATION - START [**2122-12-22**] 11:57 AM
 DIALYSIS CATHETER - START [**2122-12-22**] 02:20 PM
 BLOOD CULTURED - At [**2122-12-22**] 10:48 PM
   Weaned off dopamine
   -Intubated for worsening respiratory distress in am [**12-22**] then had CVVH
   line placed and CVVH initiated (plan for 24-48 hours then reconsider
   possibility of transitioning to HD)
   - Had bilious drainage from OG, concern for no BM in a few days
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-12-22**] 09:14 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-23**] 12:11 AM
   Infusions:
   Fentanyl - 5 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,000 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**12-21**] sedation, intubation
   Flowsheet Data as of  [**2122-12-23**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 113 (91 - 130) bpm
   BP: 121/59(76) {94/46(61) - 184/82(119)} mmHg
   RR: 17 (10 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SA (Sinus Arrhythmia)
   Wgt (current): 93.1 kg (admission): 81.8 kg
   Height: 65 Inch
    CVP: 246 (13 - 261)mmHg
   Total In:
                                                                  4,479 mL
                                                                    965 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                  4,179 mL
                                                                    965 mL
   Blood products:
   Total out:
                                                                  1,827 mL
                                                                    766 mL
   Urine:
                                                                    128 mL
                                                                      5 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  2,652 mL
                                                                    199 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 566 (566 - 566) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/31/86.[**Numeric Identifier 143**]/19/-3
   Ve: 15.1 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   202 K/uL
   10.4 g/dL
   128 mg/dL
   4.0 mg/dL
   19 mEq/L
   3.5 mEq/L
   49 mg/dL
   100 mEq/L
   136 mEq/L
   30.3 %
   20.2 K/uL
        [image002.jpg]
                             [**2122-12-22**]  06:06 AM
                             [**2122-12-22**]  10:04 AM
                             [**2122-12-22**]  12:32 PM
                             [**2122-12-22**]  12:44 PM
                             [**2122-12-22**]  12:56 PM
                             [**2122-12-22**]  10:05 PM
                             [**2122-12-22**]  10:17 PM
                             [**2122-12-23**]  04:00 AM
                             [**2122-12-23**]  04:10 AM
                             [**2122-12-23**]  06:10 AM
   WBC
   18.3
   20.2
   Hct
   29.6
   30.3
   Plt
   188
   202
   Cr
   6.0
   5.9
   4.0
   TropT
   1.15
   TCO2
   17
   15
   15
   18
   21
   20
   Glucose
   [**Telephone/Fax (3) 5528**]28
   Other labs: PT / PTT / INR:13.1/130.2/1.1, CK / CKMB /
   Troponin-T:1434/17/1.15, ALT / AST:97/50, Alk Phos / T Bili:65/0.9,
   Amylase / Lipase:228/76, Differential-Neuts:81.0 %, Band:6.0 %,
   Lymph:4.0 %, Mono:9.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 5503**] ng/mL, Lactic
   Acid:1.8 mmol/L, LDH:520 IU/L, Ca++:7.1 mg/dL, Mg++:1.7 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 PANCREATITIS, ACUTE
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   83 yo M w/ h/o congenital deafness, HTN, DM, CAD, osteoarthritis and L
   subclavian steal syndrome admitted s/p ERCP for cholangitis now with
   ARF, resp failure.
    # [**Last Name (un) **] on CKD: Pt has history of CKD with a baseline Creatinine of
   1.7-1.9. Pt's Creatinine today 4.0 after starting CVVH yesterday Bicarb
   also improved to 19 this am from low 14 prior to starting CVVH. PO
   bicarb was d/c
d.  Still? etiology of ARF with absence of muddy brown
   casts yesterday on microscopic urine exam
   - IR placed new HD line subclav today. Renal pulling fem line
   - Renally dosing meds incl Vanco Q 24 while on CVVH.
   - Avoid nephrotoxins
   - Will currently hold on AEI and [**Last Name (un) **] therapy
   -F/u any other renal recs
   -Goal I-O today
   # Resp failure- pt with resp failure and intubation [**12-22**] likely [**12-21**]
   hyperventilation for >24 hrs with continued worstening metabolic
   acidosis.
   -Intubated- will try to wean to PS today
   -On fentanyl, versed for sedation
   -AM CXR.
   # Pancreatitis/Cholangitis: Pt noted to have cholangitis and
   pancreatitis on ERCP examination, two stones were extracted from the
   ampulla and common hepatic duct, a sphincterotomy was performed [**12-19**]
   - LFTs continuing downward trend today.
   - Will continue vanc/  Zosyn for enteric coverage at renal dosing
   - NPO per ERCP for now. Rpt KUB in am then possibly start TF.
   .
   #. Hypotension: After ERCP [**12-19**] pt was noted to be hypotensive to the
   SBP 70s, on arrival to the floor pt was on pressor support however
   after transfer to his bed his MAPs were noted to be >65 without pressor
   support.  Pt again hypotensive [**12-21**] not responsive to fluids.  ?
   etiology cardiac ischemia with continuing CK and trop elevation, PE,
   tamponade (but EKG unchanged), sepsis. Hypotensive again today and back
   on levo. ? PE. Bilat LENI
s [**12-21**] neg, bedside echo with no sign RV
   strain. Cannot to CTA given ARF.
   - levo weaned overnight [**12-22**]
   -heparin gtt until V/Q  scan able to be performed once pt is stable-
   hold for line placement today
   .
   # DM II: Per [**Name (NI) 2040**] pt usually takes Glyburide 5mg once a day, On insulin
   for now.
   - Check CBGs qACHS
   - Will continue ISS
   - Will transition back to Glyburide prior to discharge
   - Will currently hold ACEI and [**Last Name (un) **] therapy given pt's current [**Last Name (un) **].
   .
   # systolic CHF: Pt on afterload therapy with Lisinopril and Valsartan
   per [**Last Name (un) 2040**]. TTE [**12-21**] with moderate LVH, LVEF 45-50%
   - Will currently hold ACEI and [**Last Name (un) **] as pt has [**Last Name (un) **]
   - Consider restarting BB 24 hrs after  pressors off  (possibly
   tomorrow)
   .
   #  Sinus Tachycardia: Pt had been sinus tachycardic [**12-21**] most likely [**12-21**]
   hypovolemia and pain.
   # Access: 2 PIV, A line,  CVL , new subclav HD line placed [**12-23**].
   # PPx: Lansoprazole, Heparin gtt.
   # Code:  FULL CODE
   # Comm: (Son) [**Name (NI) 5449**] [**Telephone/Fax (1) 5450**]
   ICU Care
   Nutrition: NPO for now [**12-21**] ileus
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2122-12-21**] 08:00 PM
   Dialysis Catheter - [**2122-12-22**] 02:20 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2122-12-23 11:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Acute Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2122-12-22**] 08:53 AM
 NON-INVASIVE VENTILATION - START [**2122-12-22**] 11:29 AM
 NON-INVASIVE VENTILATION - STOP [**2122-12-22**] 11:55 AM
 INVASIVE VENTILATION - START [**2122-12-22**] 11:57 AM
 DIALYSIS CATHETER - START [**2122-12-22**] 02:20 PM
 BLOOD CULTURED - At [**2122-12-22**] 10:48 PM
   Intubation with worsening hypoxemia
                                       History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-12-22**] 09:14 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-23**] 08:31 AM
   Infusions:
   Fentanyl - 5 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,000 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Flowsheet Data as of  [**2122-12-23**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 108 (91 - 130) bpm
   BP: 122/63(81) {94/46(61) - 184/82(119)} mmHg
   RR: 15 (10 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.1 kg (admission): 81.8 kg
   Height: 65 Inch
   CVP: 246 (32 - 246)mmHg
   Total In:
                                                                  4,479 mL
                                                                  1,579 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                  4,179 mL
                                                                  1,579 mL
   Blood products:
   Total out:
                                                                  1,827 mL
                                                                  1,445 mL
   Urine:
                                                                    128 mL
                                                                      8 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  2,652 mL
                                                                    134 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 566 (566 - 566) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.41/31/102/19/-3
   Ve: 11 L/min
   PaO2 / FiO2: 255
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   202 K/uL
   128 mg/dL
   4.0 mg/dL
   19 mEq/L
   3.5 mEq/L
   49 mg/dL
   100 mEq/L
   136 mEq/L
   30.3 %
   20.2 K/uL
        [image002.jpg]
                             [**2122-12-22**]  10:04 AM
                             [**2122-12-22**]  12:32 PM
                             [**2122-12-22**]  12:44 PM
                             [**2122-12-22**]  12:56 PM
                             [**2122-12-22**]  10:05 PM
                             [**2122-12-22**]  10:17 PM
                             [**2122-12-23**]  04:00 AM
                             [**2122-12-23**]  04:10 AM
                             [**2122-12-23**]  06:10 AM
                             [**2122-12-23**]  10:54 AM
   WBC
   20.2
   Hct
   30.3
   Plt
   202
   Cr
   5.9
   4.0
   TCO2
   17
   15
   15
   18
   21
   20
   20
   Glucose
   181
   197
   128
   Other labs: PT / PTT / INR:13.1/130.2/1.1, CK / CKMB /
   Troponin-T:1434/17/1.15, ALT / AST:97/50, Alk Phos / T Bili:65/0.9,
   Amylase / Lipase:228/76, Differential-Neuts:81.0 %, Band:6.0 %,
   Lymph:4.0 %, Mono:9.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 5503**] ng/mL, Lactic
   Acid:1.8 mmol/L, LDH:520 IU/L, Ca++:7.1 mg/dL, Mg++:1.7 mg/dL, PO4:4.5
   mg/dL
   Imaging: CXR-ETT and CVL in good position.  he has bilateral LL
   opacities raising concern for possible bilateral lower lobe
   infiltrates.
   Assessment and Plan
   83 yo male with admission with obstructing biliary stone and now s/p
   ERCP with stone removal.  He has had persistent and worsening renal
   failure and now started on CVVH.  He has worsening hypoxemia which has
   required intubation and has had reasonable tolerance of ventilatory
   support.  He has had reasonable tolerance of ventilatory support and
   oxygenation.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
RSBI is 35 today
   -Vanco/Zosyn
   -Patient with Plateau of 20 showing improved compliance
   -He has continued elevated Ve requirement but PSV would be reasonable
   -Original insult of metabolic acidosis has been corrected with CVVH and
   will move to wean ventilator
   Shock
Patient with recurrent hypotension showing good response to
   pressors transiently and now having excellent response to mild volume
   replacement and transient pressors
   -Follow up culture results
   -CVVH even today and hope to move to negative fluid balance when BP
   permits
   -Continue ABX
   -Heparin continuing for possible PE
OK to hold for procedures.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)-
   -Would favor alternative access for Dialysis
   -CVVH today and would like to move catheter to stable site to allow
   move to extubation
 OLIGURIA/ANURIA
 PANCREATITIS, ACUTE-
   -Lipase substantially improved despite clinical worsening
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)-
   -Felt to be transient leak of enzymes in the setting of demand ischemia
   ICU Care
   Nutrition: TF
s to start today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2122-12-21**] 08:00 PM
   Arterial Line - [**2122-12-22**] 08:53 AM
   Dialysis Catheter - [**2122-12-22**] 02:20 PM
   Prophylaxis:
   DVT: IV Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2122-12-24 08:01:00 Physician Resident Progress Note
Chief Complaint: s/p ERCP, ARF
   24 Hour Events:
 DIALYSIS CATHETER - START [**2122-12-23**] 03:49 PM
   - Nutrition consulted for TF recs- in chart
   - ERCP: has ileus. Should wait until bowel sounds, passing gas to start
   TF. RPT KUB in am [**12-24**]
   - IR placed HD line subclav. Renal pulled groin HD line
   - Pt doing well on Pressure support [**6-23**]
   -heparin drip restarted at 7pm
   - 500cc NS bolus in evening for Hypotension with SBP 80s
   -Remains on On vanc renally dosed Q 24 and Zosyn
   - 2L NS  given in [**Last Name (un) **] rescue with CVVH around 2am
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-12-23**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-24**] 01:27 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,000 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**12-21**] sedation and language barrier
   Flowsheet Data as of  [**2122-12-24**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 35.6
C (96
   HR: 93 (93 - 120) bpm
   BP: 118/53(72) {81/43(55) - 141/64(87)} mmHg
   RR: 13 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.1 kg (admission): 81.8 kg
   Height: 65 Inch
    CVP: 17 (9 - 21)mmHg
   Total In:
                                                                  3,287 mL
                                                                  2,697 mL
   PO:
   TF:
   IVF:
                                                                  3,287 mL
                                                                  2,697 mL
   Blood products:
   Total out:
                                                                  2,695 mL
                                                                    500 mL
   Urine:
                                                                     23 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    592 mL
                                                                  2,197 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 605 (545 - 605) mL
   PS : 8 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.27/40/101/18/-7
   Ve: 8.5 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   e nd expiratory)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   180 K/uL
   9.5 g/dL
   140 mg/dL
   3.1 mg/dL
   18 mEq/L
   4.4 mEq/L
   36 mg/dL
   104 mEq/L
   135 mEq/L
   28.3 %
   21.5 K/uL
        [image002.jpg]
                             [**2122-12-23**]  04:10 AM
                             [**2122-12-23**]  06:10 AM
                             [**2122-12-23**]  10:18 AM
                             [**2122-12-23**]  10:54 AM
                             [**2122-12-23**]  04:12 PM
                             [**2122-12-23**]  05:05 PM
                             [**2122-12-23**]  05:59 PM
                             [**2122-12-23**]  11:17 PM
                             [**2122-12-24**]  03:31 AM
                             [**2122-12-24**]  03:48 AM
   WBC
   21.5
   Hct
   28.3
   Plt
   180
   Cr
   3.8
   3.1
   TCO2
   21
   20
   20
   21
   20
   18
   19
   Glucose
   110
   113
   140
   Other labs: PT / PTT / INR:13.2/65.4/1.1, CK / CKMB /
   Troponin-T:1434/17/1.15, ALT / AST:68/43, Alk Phos / T Bili:70/0.7,
   Amylase / Lipase:132/18, Differential-Neuts:81.0 %, Band:6.0 %,
   Lymph:4.0 %, Mono:9.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 5503**] ng/mL, Lactic
   Acid:1.8 mmol/L, LDH:434 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.1
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 PANCREATITIS, ACUTE
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   83 yo M w/ h/o congenital deafness, HTN, DM, CAD, osteoarthritis and L
   subclavian steal syndrome admitted s/p ERCP for cholangitis now with
   ARF, resp failure.
    # [**Last Name (un) **] on CKD: Pt has history of CKD with a baseline Creatinine of
   1.7-1.9. Pt's Creatinine peaked at 6.0 prior to starting  CVVH [**12-22**] .
   Still? etiology of ARF with absence of muddy brown casts yesterday on
   microscopic urine exam.  Bicarb stable but still with metabolic gap and
   non-gap acidosis with Bicarb 18 today. Has R subclav  in place for HD
   - Renally dosing meds incl Vanco Q 24 while on CVVH.
   - Avoid nephrotoxins
   - Will currently hold on AEI and [**Last Name (un) **] therapy
   -F/u any other renal recs
   -Goal I-O today  to keep even. If hypotensive, give LR. Unlikely to be
   stable enough with BP to diurese today.
   -If pt is sedated, he will need family and/or interpreter with him
   today to explain situation particularly CVVH.
   # Resp failure- pt with resp failure and intubation [**12-22**] likely [**12-21**]
   hyperventilation for >24 hrs with continued worstening metabolic
   acidosis.  Now also has respiratory acidosis with low RR on PS 8/5.
   Will try to wean sedation to get better RR. Trying not to go up on PS
   as TV still ~800cc  and do not want to go back on A/C.
   -Intubated- will try to wean to PS today
   -On fentanyl, versed for sedation- weaning
   -CXR today- check for evidence of pulmonary edema
   - Consider late afternoon extubation today if possible.
   -start inhalers today [**12-21**] wheeze
   - rechk ABG
   # Pancreatitis/Cholangitis: Pt noted to have cholangitis and
   pancreatitis on ERCP examination, two stones were extracted from the
   ampulla and common hepatic duct, a sphincterotomy was performed [**12-19**].
   Pt with BS today but awaiting final read of KUB
   - LFTs continuing downward trend
   - Will continue vanc/  Zosyn for enteric coverage at renal dosing
   - NPO per ERCP for now but will check in with them today
   .
   #. Hypotension: After ERCP [**12-19**] pt was noted to be hypotensive to the
   SBP 70s, on arrival to the floor pt was on pressor support however
   after transfer to his bed his MAPs were noted to be >65 without pressor
   support.  Pt again hypotensive [**12-21**] not responsive to fluids.  ?
   etiology cardiac ischemia with continuing CK and trop elevation, PE,
   tamponade (but EKG unchanged), sepsis. Off levo since am [**12-23**]. ? PE.
   Bilat LENI
s [**12-21**] neg, bedside echo with no sign RV strain. Cannot to
   CTA given ARF.
   -heparin gtt until V/Q  scan able to be performed once pt is stable
   -PRN LR boluses
   -Pan culture today
   .
   # DM II: Per [**Name (NI) 2040**] pt usually takes Glyburide 5mg once a day, On insulin
   for now.
   - Check CBGs QID
   - Will continue ISS
   - Will transition back to Glyburide prior to discharge
   - Will currently hold ACEI and [**Last Name (un) **] therapy given pt's current [**Last Name (un) **].
   .
   # systolic CHF: Pt on afterload therapy with Lisinopril and Valsartan
   per [**Last Name (un) 2040**]. TTE [**12-21**] with moderate LVH, LVEF 45-50%
   - Will currently hold ACEI and [**Last Name (un) **] as pt has [**Last Name (un) **], hypotension
   - Consider restarting BB 24 hrs after  pressors off  and BP stable
   .
   #  Sinus Tachycardia: Pt had been sinus tachycardic [**12-21**] most likely [**12-21**]
   hypovolemia and pain.
   # Access: 2 PIV, A line,  CVL , new subclav HD line placed [**12-23**].
   # PPx: Lansoprazole, Heparin gtt.
   # Code:  FULL CODE
   # Comm: (Son) [**Name (NI) 5449**] [**Telephone/Fax (1) 5450**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2122-12-21**] 08:00 PM
   Arterial Line - [**2122-12-22**] 08:53 AM
   Dialysis Catheter - [**2122-12-23**] 03:49 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2122-12-24 10:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2122-12-23**] 03:49 PM
   -Patient with Dialysis catheter change yesterday
   -Patient with intermittent tachycardia but has remained off of pressors
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-12-23**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-24**] 07:57 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 1,000 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2122-12-24**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 35.2
C (95.4
   HR: 84 (84 - 120) bpm
   BP: 92/45(59) {81/43(55) - 141/64(87)} mmHg
   RR: 14 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.1 kg (admission): 81.8 kg
   Height: 65 Inch
   CVP: 17 (9 - 21)mmHg
   Total In:
                                                                  3,287 mL
                                                                  2,903 mL
   PO:
   TF:
   IVF:
                                                                  3,287 mL
                                                                  2,873 mL
   Blood products:
   Total out:
                                                                  2,695 mL
                                                                    688 mL
   Urine:
                                                                     23 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    592 mL
                                                                  2,215 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 700 (545 - 700) mL
   PS : 8 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.27/40/101/18/-7
   Ve: 9.1 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Wheezes : Increased and expiratory)
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   180 K/uL
   140 mg/dL
   3.1 mg/dL
   18 mEq/L
   4.4 mEq/L
   36 mg/dL
   104 mEq/L
   135 mEq/L
   28.3 %
   21.5 K/uL
        [image002.jpg]
                             [**2122-12-23**]  04:10 AM
                             [**2122-12-23**]  06:10 AM
                             [**2122-12-23**]  10:18 AM
                             [**2122-12-23**]  10:54 AM
                             [**2122-12-23**]  04:12 PM
                             [**2122-12-23**]  05:05 PM
                             [**2122-12-23**]  05:59 PM
                             [**2122-12-23**]  11:17 PM
                             [**2122-12-24**]  03:31 AM
                             [**2122-12-24**]  03:48 AM
   WBC
   21.5
   Hct
   28.3
   Plt
   180
   Cr
   3.8
   3.1
   TCO2
   21
   20
   20
   21
   20
   18
   19
   Glucose
   110
   113
   140
   Other labs: PT / PTT / INR:13.2/65.4/1.1, CK / CKMB /
   Troponin-T:1434/17/1.15, ALT / AST:68/43, Alk Phos / T Bili:70/0.7,
   Amylase / Lipase:132/18, Differential-Neuts:81.0 %, Band:6.0 %,
   Lymph:4.0 %, Mono:9.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 5503**] ng/mL, Lactic
   Acid:1.8 mmol/L, LDH:434 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.1
   mg/dL
   Assessment and Plan
   83 yo male with biliarly obstruction and now s/p ERCP and patient with
   worsening renal failure in the setting of resolving sepsis patient with
   intubation in the setting of severe volume overload an acidosis.   CVVH
   not started.  He has had improved BP with support with IVF and pressors
   have remained off.  He has had continued metabolic acidosis but much
   improved with CVVH to HCO3-=18.  Mild respiratory acidosis remains but
   is likely related to sedating effects of medicaiton.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])-
   -CXR today given new evolution of wheezing noted with some
   unilaterality
   -Wean sedation with low RR seen in the setting of mild resp acidosis
   -Continue to wean PSV and move to extubation today
   -Continue bronchodilators with good response seen over time
   -Main concern as barrier to extubation may well be volume overload in
   the setting of CVP elevation and 2 liters positive across the day
   -With extubation will need to provide sign language
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)-
   -Continue CVVH
   -Acidosis which is non-gap has shown some reasonable improvement wth
   CVVH
   -Likely contribution from renal failure as primary driver with NS given
   yesterday
   -He remains with near anuric state
 OLIGURIA/ANURIA
 PANCREATITIS, ACUTE-
   -Much improved on enzyme testing
   -Will maintain npo until good evidence of return of bowel function seen
   Hypotension-
   -Patient with adequate CVP
   -He has preserved cardiac function
   -No evidence of autopeep impairing effective filling
   -[**Month (only) 51**] be decreased SVR as primary driver
he does not show signs of
   sepsis
   -Will need to continue Heparin gtt for now
   -Lactate, repeat cultures,  cortisol, TSH if unrevealing, fungal
   cultures
   -Vanco/Zosyn
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2122-12-21**] 08:00 PM
   Arterial Line - [**2122-12-22**] 08:53 AM
   Dialysis Catheter - [**2122-12-23**] 03:49 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes

2122-12-25 07:32:00 Physician Resident Progress Note
Chief Complaint: s/p ERCP with ARF, Resp failure
   24 Hour Events:
 BLOOD CULTURED - At [**2122-12-24**] 12:26 PM
 SPUTUM CULTURE - At [**2122-12-24**] 12:26 PM
 BLOOD CULTURED - At [**2122-12-24**] 02:00 PM
   -I/O goal of even to neg 500cc but was hypotensive to 100s systolic so
   nurses limited in how much fluid they could remove (did not require
   pressors)
   -Put on PS 8/5 -> [**3-23**]
   -Renal reccs - nothing new, continue CVVH w/ goal of even given sepsis
   physiology
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-12-24**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-25**] 02:14 AM
   Infusions:
   Fentanyl - 30 mcg/hour
   Midazolam (Versed) - 0.6 mg/hour
   Heparin Sodium - 1,000 units/hour
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**12-21**] intubation, sedation, language
   barrier
   Flowsheet Data as of  [**2122-12-25**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 99 (79 - 112) bpm
   BP: 106/44(61) {92/41(56) - 164/139(147)} mmHg
   RR: 19 (9 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.1 kg (admission): 81.8 kg
   Height: 65 Inch
    CVP: 15 (15 - 18)mmHg
   Bladder pressure: 20 (20 - 20) mmHg
   Total In:
                                                                  5,075 mL
                                                                    989 mL
   PO:
   TF:
   IVF:
                                                                  5,025 mL
                                                                    989 mL
   Blood products:
   Total out:
                                                                  3,588 mL
                                                                  1,090 mL
   Urine:
                                                                     30 mL
                                                                      8 mL
   NG:
                                                                    240 mL
   Stool:
   Drains:
   Balance:
                                                                  1,487 mL
                                                                   -101 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 702 (700 - 927) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.34/34/112/19/-6
   Ve: 9.9 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   182 K/uL
   9.1 g/dL
   121 mg/dL
   2.3 mg/dL
   19 mEq/L
   4.0 mEq/L
   27 mg/dL
   102 mEq/L
   133 mEq/L
   28.4 %
   25.8 K/uL
        [image002.jpg]
                             [**2122-12-23**]  11:17 PM
                             [**2122-12-24**]  03:31 AM
                             [**2122-12-24**]  03:48 AM
                             [**2122-12-24**]  09:35 AM
                             [**2122-12-24**]  09:50 AM
                             [**2122-12-24**]  04:00 PM
                             [**2122-12-24**]  04:23 PM
                             [**2122-12-24**]  10:16 PM
                             [**2122-12-25**]  04:19 AM
                             [**2122-12-25**]  04:39 AM
   WBC
   21.5
   25.8
   Hct
   28.3
   28.4
   Plt
   180
   182
   Cr
   3.1
   2.4
   2.3
   TCO2
   18
   19
   20
   16
   19
   19
   Glucose
   140
   127
   110
   121
   Other labs: PT / PTT / INR:12.6/66.6/1.1, CK / CKMB /
   Troponin-T:1434/17/1.15, ALT / AST:52/36, Alk Phos / T Bili:80/0.6,
   Amylase / Lipase:132/18, Differential-Neuts:81.0 %, Band:6.0 %,
   Lymph:4.0 %, Mono:9.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 5503**] ng/mL, Lactic
   Acid:1.2 mmol/L, LDH:416 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 PANCREATITIS, ACUTE
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   83 yo M w/ h/o congenital deafness, HTN, DM, CAD, osteoarthritis and L
   subclavian steal syndrome admitted s/p ERCP for cholangitis now with
   ARF, resp failure.
    # [**Last Name (un) **] on CKD: Pt has history of CKD with a baseline Creatinine of
   1.7-1.9. Pt's Creatinine peaked at 6.0 prior to starting  CVVH [**12-22**] .
   Still? etiology of ARF with absence of muddy brown casts yesterday on
   microscopic urine exam.  Bicarb stable but still with metabolic gap and
   non-gap acidosis with Bicarb 18 today. Has R subclav  in place for HD
   - Renally dosing meds incl Vanco Q 24 while on CVVH.
   - Avoid nephrotoxins
   - Will currently hold on AEI and [**Last Name (un) **] therapy
   -F/u any other renal recs
   -Goal I-O today  to keep even. If hypotensive, give LR. Unlikely to be
   stable enough with BP to diurese today.
   -If pt is sedated, he will need family and/or interpreter with him
   today to explain situation particularly CVVH.
    # Resp failure- pt with resp failure and intubation [**12-22**] likely [**12-21**]
   hyperventilation for >24 hrs with continued worstening metabolic
   acidosis.  Now also has respiratory acidosis with low RR on PS 8/5.
   Will try to wean sedation to get better RR. Trying not to go up on PS
   as TV still ~800cc  and do not want to go back on A/C.
   -Intubated- will try to wean to PS today
   -On fentanyl, versed for sedation- weaning
   -CXR today- check for evidence of pulmonary edema
   - Consider late afternoon extubation today if possible.
   -start inhalers today [**12-21**] wheeze
   - rechk ABG
   # Pancreatitis/Cholangitis: Pt noted to have cholangitis and
   pancreatitis on ERCP examination, two stones were extracted from the
   ampulla and common hepatic duct, a sphincterotomy was performed [**12-19**].
   Pt with BS today but awaiting final read of KUB
   - LFTs continuing downward trend
   - Will continue vanc/  Zosyn for enteric coverage at renal dosing
   - NPO per ERCP for now but will check in with them today
   .
   #. Hypotension: After ERCP [**12-19**] pt was noted to be hypotensive to the
   SBP 70s, on arrival to the floor pt was on pressor support however
   after transfer to his bed his MAPs were noted to be >65 without pressor
   support.  Pt again hypotensive [**12-21**] not responsive to fluids.  ?
   etiology cardiac ischemia with continuing CK and trop elevation, PE,
   tamponade (but EKG unchanged), sepsis. Off levo since am [**12-23**]. ? PE.
   Bilat LENI
s [**12-21**] neg, bedside echo with no sign RV strain. Cannot to
   CTA given ARF.
   -heparin gtt until V/Q  scan able to be performed once pt is stable
   -PRN LR boluses
   -Pan culture today
   .
   # DM II: Per [**Name (NI) 2040**] pt usually takes Glyburide 5mg once a day, On insulin
   for now.
   - Check CBGs QID
   - Will continue ISS
   - Will transition back to Glyburide prior to discharge
   - Will currently hold ACEI and [**Last Name (un) **] therapy given pt's current [**Last Name (un) **].
   .
   # systolic CHF: Pt on afterload therapy with Lisinopril and Valsartan
   per [**Last Name (un) 2040**]. TTE [**12-21**] with moderate LVH, LVEF 45-50%
   - Will currently hold ACEI and [**Last Name (un) **] as pt has [**Last Name (un) **], hypotension
   - Consider restarting BB 24 hrs after  pressors off  and BP stable
   .
   #  Sinus Tachycardia: Pt had been sinus tachycardic [**12-21**] most likely [**12-21**]
   hypovolemia and pain.
   # Access: 2 PIV, A line,  CVL , new subclav HD line placed [**12-23**].
   # PPx: Lansoprazole, Heparin gtt.
   # Code:  FULL CODE
   # Comm: (Son) [**Name (NI) 5449**] [**Telephone/Fax (1) 5450**]
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2122-12-21**] 08:00 PM
   Arterial Line - [**2122-12-22**] 08:53 AM
   Dialysis Catheter - [**2122-12-23**] 03:49 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2122-12-25 10:17:00 Physician Attending Progress Note
Chief Complaint: Cholangitis
   Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2122-12-24**] 12:26 PM
 SPUTUM CULTURE - At [**2122-12-24**] 12:26 PM
 BLOOD CULTURED - At [**2122-12-24**] 02:00 PM
   _Extensive discussion with family yesterday in regards to continued
   clinical course with significant issues of renal failure, respiratory
   failure being managed as defined in the plan.  All questions answered
   and Dr. [**Last Name (STitle) 3675**] [**Name (NI) 167**] to discuss ERCP events with english speaking
   Grandson---Artur
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-12-24**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-25**] 09:30 AM
   Infusions:
   Fentanyl - 30 mcg/hour
   Midazolam (Versed) - 0.6 mg/hour
   Heparin Sodium - 1,000 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2122-12-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-12-25**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.5
   HR: 100 (79 - 112) bpm
   BP: 91/44(60) {82/39(53) - 164/139(147)} mmHg
   RR: 17 (9 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.1 kg (admission): 81.8 kg
   Height: 65 Inch
   CVP: 8 (8 - 15)mmHg
   Bladder pressure: 20 (20 - 20) mmHg
                                Total In:
                                                                  5,075 mL
                                                                  1,275 mL
   PO:
                                TF:
   IVF:
                                                                  5,025 mL
                                                                  1,245 mL
   Blood products:
   Total out:
                                                                  3,588 mL
                                                                  1,986 mL
   Urine:
                                                                     30 mL
                                                                      8 mL
   NG:
   240 mL
   Stool:
   Drains:
   Balance:
                                                                  1,487 mL
                                                                   -711 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 569 (569 - 927) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.34/34/112/19/-6
   Ve: 11.3 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   182 K/uL
   121 mg/dL
   2.3 mg/dL
   19 mEq/L
   4.0 mEq/L
   27 mg/dL
   102 mEq/L
   133 mEq/L
   28.4 %
   25.8 K/uL
        [image002.jpg]
                             [**2122-12-23**]  11:17 PM
                             [**2122-12-24**]  03:31 AM
                             [**2122-12-24**]  03:48 AM
                             [**2122-12-24**]  09:35 AM
                             [**2122-12-24**]  09:50 AM
                             [**2122-12-24**]  04:00 PM
                             [**2122-12-24**]  04:23 PM
                             [**2122-12-24**]  10:16 PM
                             [**2122-12-25**]  04:19 AM
                             [**2122-12-25**]  04:39 AM
   WBC
   21.5
   25.8
   Hct
   28.3
   28.4
   Plt
   180
   182
   Cr
   3.1
   2.4
   2.3
   TCO2
   18
   19
   20
   16
   19
   19
   Glucose
   140
   127
   110
   121
   Other labs: PT / PTT / INR:12.6/66.6/1.1, CK / CKMB /
   Troponin-T:1434/17/1.15, ALT / AST:52/36, Alk Phos / T Bili:80/0.6,
   Amylase / Lipase:132/18, Differential-Neuts:81.0 %, Band:6.0 %,
   Lymph:4.0 %, Mono:9.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 5503**] ng/mL, Lactic
   Acid:1.2 mmol/L, LDH:416 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   Imaging: CXR--Minimal pulmonary congestion, left sided effusion, likely
   bilateral atelectatsis noted
   Assessment and Plan
   83 yo male with history of CAD, HTN now admit with cholangitis and post
   intervention course compliacted by acute renal failure, hypotension and
   respiratory failiure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
he has barriers to
   extubation of altered mental status and mild volume overload.  He has
   made some meaningful negative fluid balance.  Given favorable RSBI,
   negative fluid balance will move to SBT.
   -SBT x 30 minutes
   -Check ABG at 30 minutes
   -If favorable witll attempt extubation today
   -If unfavorable with SBT then would return to CVVH with negative fluid
   balance
   -Sepsis
He has persistent and intermittent hypotension
this is in the
   setting of volume removal
and continued treatment for original insult.
   He has concern raised for C. diff with elevation in WBC count.
   -C. Diff culture
   -Will hold on CT scan given need for contrast, reassuring abdominal
   exam, KUB without obstruction when confirmed from radiology
   -Would provide empiric Rx for C. Diff
with Flagyl
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -Continue CVVH
   -Continue negative fluid balance today
   -HD catheter in place
 OLIGURIA/ANURIA
 PANCREATITIS, ACUTE
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2122-12-21**] 08:00 PM
   Arterial Line - [**2122-12-22**] 08:53 AM
   Dialysis Catheter - [**2122-12-23**] 03:49 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Family (sons x2 updated today) and relative
   who is RN from [**Name (NI) 2716**] provided clinical data to help translate Rx for
   family
   Code status: ICU
   Disposition :FULL CODE
   Total time spent: 45

2122-12-26 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2122-12-25**] 12:15 PM
 INVASIVE VENTILATION - START [**2122-12-25**] 03:20 PM
   -Extubated in am but re-intubated [**12-21**] wheeze despite heliox, nebs,
   steroids.  Reintubation complicated by intubation into esophagus with
   aspiration as lg amts bile suctioned from lungs after placement of ETT
   in trachea.
   -Per renal- if can do CVVH taking 50cc off per hour, and BP stable,
   could be candidate for HD Sat or mon. Talking to attg re: ability for
   contrast and CT. Also, weigh risks and benefits of contrast PRN.
   -Per ERCP fellow- has ileus. Likely needs to wait it out. Consider TPN.
   KUB consist with ileus. Could possibly have abscess but would need CT
   for that (best would be with IV contrast). Hard abd is stable since
   admission.
   -Hypotensive around midnight. Stopped taking fluid off with CVVH and
   placed back on Levo.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-12-25**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-26**] 02:45 AM
   Metronidazole - [**2122-12-26**] 04:15 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 12.5 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Heparin Sodium - 1,150 units/hour
   Norepinephrine - 0.08 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2122-12-25**] 08:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**12-21**] sedation
   Flowsheet Data as of  [**2122-12-26**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 93 (87 - 118) bpm
   BP: 105/45(64) {82/39(53) - 143/113(204)} mmHg
   RR: 12 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.7 kg (admission): 81.8 kg
   Height: 65 Inch
    CVP: 11 (8 - 12)mmHg
   Total In:
                                                                  4,372 mL
                                                                    998 mL
   PO:
   TF:
   IVF:
                                                                  4,342 mL
                                                                    998 mL
   Blood products:
   Total out:
                                                                  4,457 mL
                                                                  1,517 mL
   Urine:
                                                                      8 mL
                                                                     10 mL
   NG:
                                                                    490 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    -85 mL
                                                                   -519 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 600) mL
   Vt (Spontaneous): 801 (552 - 832) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 16 cmH2O
   Plateau: 20 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/34/86/16/-8
   Ve: 15.8 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube draining bilious
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: clear )
   Abdominal: Soft, Non-tender, Bowel sounds absent, Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: sternal rub, Movement: spontaneous, Sedated,
   Tone: nl
   Labs / Radiology
   230 K/uL
   9.3 g/dL
   195 mg/dL
   1.8 mg/dL
   16 mEq/L
   4.5 mEq/L
   26 mg/dL
   100 mEq/L
   136 mEq/L
   29.4 %
   40.0 K/uL
        [image002.jpg]
                             [**2122-12-24**]  10:16 PM
                             [**2122-12-25**]  04:19 AM
                             [**2122-12-25**]  04:39 AM
                             [**2122-12-25**]  10:52 AM
                             [**2122-12-25**]  01:48 PM
                             [**2122-12-25**]  04:04 PM
                             [**2122-12-25**]  04:24 PM
                             [**2122-12-25**]  09:05 PM
                             [**2122-12-25**]  09:10 PM
                             [**2122-12-26**]  04:02 AM
   WBC
   25.8
   29.5
   40.0
   Hct
   28.4
   25.7
   29.4
   Plt
   182
   187
   230
   Cr
   2.3
   1.9
   2.0
   1.8
   TropT
   0.19
   0.23
   TCO2
   19
   19
   20
   19
   18
   18
   Glucose
   121
   138
   172
   195
   Other labs: PT / PTT / INR:12.7/95.6/1.1, CK / CKMB /
   Troponin-T:103/7/0.23, ALT / AST:48/38, Alk Phos / T Bili:98/0.7,
   Amylase / Lipase:132/18, Differential-Neuts:81.0 %, Band:11.0 %,
   Lymph:0.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 5503**] ng/mL, Lactic
   Acid:1.6 mmol/L, LDH:425 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 PANCREATITIS, ACUTE
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   83 yo M w/ h/o congenital deafness, HTN, DM, CAD, osteoarthritis and L
   subclavian steal syndrome admitted s/p ERCP for cholangitis now with
   ARF s/p  resp failure.
    # [**Last Name (un) **] on CKD: Pt has history of CKD with a baseline Creatinine of
   1.7-1.9. Pt's Creatinine peaked at 6.0 prior to starting  CVVH [**12-22**] .
   Still? etiology of ARF with absence of muddy brown casts originally on
   microscopic urine exam.  Bicarb stable but still with metabolic gap and
   non-gap acidosis with Bicarb 16 today. Has R subclav  in place for HD
   - Renally dosing meds incl Vanco Q 24 while on CVVH.
   - Avoid nephrotoxins
   - Will currently hold on AEI and [**Last Name (un) **] therapy
   -F/u any other renal recs
   -Will try to remove fluids with CVVH if pt can get off pressors later
   today
    # Resp failure- pt with resp failure and intubation [**12-22**] likely [**12-21**]
   hyperventilation for >24 hrs with continued worstening metabolic
   acidosis.  Pt did well o/n on [**3-23**] and with trial of 5/0 in am [**12-25**] and
   was extubated. Subsequently, pt with significant wheeze although has O2
   sat in high 90
s- trying heliox, nebs, steroids.  Was reintubated.
   -Maintain pressure support [**8-23**] today
   -daily CXR- today with atelectasis and possible L effusion
   -nebs ATC
   - rechk ABG
   -Pull back ETT 1cm based on CXR today
    #Leukocytosis:WBC jumped today from 25 to 40. ? etiology- abscess in
   belly, C diff, PNA (CXR not with sign evidence of infxn)
   - CT abd/pelvis w/ PO contrast WET READ showed pancreatitis (can't
   determine if necrosis without IV contrast), no evidence of obstruction
   or dilation of bowel, small pleural effusions and atelectasis, possibly
   small focal colonic wall thickening, 3rd spacing with edema,
   retroperitoneal fluid and trace free fluid in pelvis and sm amt
   ascites, nothing tapable.
 Cultures all continuing negative.
   - Will chk c diff if has any stools.
   - Culture from all lines pending
   # Pancreatitis/Cholangitis: Pt noted to have cholangitis and
   pancreatitis on ERCP examination, two stones were extracted from the
   ampulla and common hepatic duct, a sphincterotomy was performed [**12-19**].
   ERCP fellow [**12-24**] stated still has ileus s/p procedure and no further tx
   for this. Abd CT today without evidence of perf, abscess, tapable fluid
   collection, CDiff
   - LFTs continuing downward trend
   - Will continue vanc/  Zosyn/flagyl for enteric coverage at renal
   dosing
   - NPO continued for now- PPN ordered for today
   .
   #. Hypotension: After ERCP [**12-19**] pt was noted to be hypotensive to the
   SBP 70s, on arrival to the floor pt was on pressor support however
   after transfer to his bed his MAPs were noted to be >65 without pressor
   support.  Pt again hypotensive \ not responsive to fluids.  ? etiology
   cardiac ischemia with continuing CK and trop elevation, PE, tamponade
   (but EKG unchanged), sepsis. Off levo since am [**12-23**]. ? PE. Bilat LENI
   [**12-21**] neg, bedside echo with no sign RV strain. Have not yet done CTA
   given ARF. Levo restarted [**12-26**] early in am. Pt unable to be weaned yet
   today, no fluid being removed by CVVH
   -heparin gtt until V/Q  scan or CTA able to be performed once pt is
   stable
   -f/u cultures
   .
   # DM II: Per [**Name (NI) 2040**] pt usually takes Glyburide 5mg once a day, On insulin
   for now.
   - Check CBGs QID
   - Will continue ISS
   - Will transition back to Glyburide prior to discharge
   - Will currently hold ACEI and [**Last Name (un) **] therapy given pt's current [**Last Name (un) **].
   .
   # systolic CHF: Pt on afterload therapy with Lisinopril and Valsartan
   per [**Last Name (un) 2040**]. TTE [**12-21**] with moderate LVH, LVEF 45-50%
   - Will currently hold ACEI and [**Last Name (un) **] as pt has [**Last Name (un) **], hypotension
   - Consider restarting BB when  BP stable
   # Access: A line,  CVL , subclav HD line placed [**12-23**].
   # PPx: Lansoprazole, Heparin gtt.
   # Code:  FULL CODE
   # Comm: (Son) [**Name (NI) 5449**] [**Telephone/Fax (1) 5450**]
   ICU Care
   Nutrition: NPO for now- PPN ordered
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2122-12-21**] 08:00 PM
   Arterial Line - [**2122-12-22**] 08:53 AM
   Dialysis Catheter - [**2122-12-23**] 03:49 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2122-12-26 09:46:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Hypotension
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2122-12-25**] 12:15 PM
 INVASIVE VENTILATION - START [**2122-12-25**] 03:20 PM
   -Patient with recurrent hypotension in the setting of re-intubation
   yesterday
   -Ileus noted on CT scan
   -Unable to create negative fluid balance
   -Patient extubated--had substantial central ariways wheezing and
   re-intubated with complication of transient esophageal intubation and
   likely aspiration of bilious contents.
   -Levophed re-started for recurrent hypotension
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-12-25**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-26**] 02:45 AM
   Metronidazole - [**2122-12-26**] 04:15 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 12.5 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Heparin Sodium - 1,150 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2122-12-26**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96.1
   HR: 93 (87 - 118) bpm
   BP: 118/50(72) {89/39(55) - 143/113(204)} mmHg
   RR: 17 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.7 kg (admission): 81.8 kg
   Height: 65 Inch
   CVP: 11 (9 - 12)mmHg
   Total In:
                                                                  4,372 mL
                                                                  1,157 mL
   PO:
   TF:
   IVF:
                                                                  4,342 mL
                                                                  1,157 mL
   Blood products:
   Total out:
                                                                  4,457 mL
                                                                  1,842 mL
   Urine:
                                                                      8 mL
                                                                     10 mL
   NG:
                                                                    490 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    -85 mL
                                                                   -685 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 600) mL
   Vt (Spontaneous): 713 (552 - 832) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 16 cmH2O
   Plateau: 20 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/34/86/16/-8
   Ve: 10.2 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: No(t) Wheezes : , Diminished: ), PIP=25, Pplat=20
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   230 K/uL
   195 mg/dL
   1.8 mg/dL
   16 mEq/L
   4.5 mEq/L
   26 mg/dL
   100 mEq/L
   136 mEq/L
   29.4 %
   40.0 K/uL
        [image002.jpg]
                             [**2122-12-24**]  10:16 PM
                             [**2122-12-25**]  04:19 AM
                             [**2122-12-25**]  04:39 AM
                             [**2122-12-25**]  10:52 AM
                             [**2122-12-25**]  01:48 PM
                             [**2122-12-25**]  04:04 PM
                             [**2122-12-25**]  04:24 PM
                             [**2122-12-25**]  09:05 PM
                             [**2122-12-25**]  09:10 PM
                             [**2122-12-26**]  04:02 AM
   WBC
   25.8
   29.5
   40.0
   Hct
   28.4
   25.7
   29.4
   Plt
   182
   187
   230
   Cr
   2.3
   1.9
   2.0
   1.8
   TropT
   0.19
   0.23
   TCO2
   19
   19
   20
   19
   18
   18
   Glucose
   121
   138
   172
   195
   Other labs: PT / PTT / INR:12.7/95.6/1.1, CK / CKMB /
   Troponin-T:103/7/0.23, ALT / AST:48/38, Alk Phos / T Bili:98/0.7,
   Amylase / Lipase:132/18, Differential-Neuts:81.0 %, Band:11.0 %,
   Lymph:0.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 5503**] ng/mL, Lactic
   Acid:1.6 mmol/L, LDH:425 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   Imaging: CXR--ETT at 1cm above carina.  HD line and IJ line in good
   position, Left sided atelectasis persists
   Assessment and Plan
   83 yo male with initial presentation with biliary obstruction and
   patient had failed extubation yesterday with what was likely related to
   significant evolution of pulmonary edema which may be related to volume
   overload and resultant wheezing as upper airway patency seemed adequate
   at re-intubation.  He now is faced with substantial rise in WBC count
   despite start for C. Diff Rx yesterday.  This may be in part
   attributable to SIRS insult from re-intubation yesterday.  This raises
   question of focal collection in abdomen with superinfection of
   pancreatitis.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])-
   -Continue with PSV
   -Will need adequate volume removal prior to next attempt at extubation
   -CXR reassuring
   -Continue with steroids for upper airway patency
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -Hold on fluid removal
   -Urine output is minimal still
   -Continue CVVH
 OLIGURIA/ANURIA
 PANCREATITIS, ACUTE-
   Enzymes normalized
   Continue with fluid management of above
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)-
   -Improved enzymes in the setting of acute resp failure of yesterday
   Sepsis/Hypotension-Concern for Toxic Megacolon although C. Diff has not
   been seen and KUB was reassuring.  Abscess is of concern, perforation
   is less likely but possible
   -CT scan today with oral contrast
   -Vanco/Zosyn/Flagyl to continue
   -Continue with Rx for possible PE
   ICU Care
   Nutrition: TPN to start today
   Glycemic Control:
   Lines:
   Multi Lumen - [**2122-12-21**] 08:00 PM
   Arterial Line - [**2122-12-22**] 08:53 AM
   Dialysis Catheter - [**2122-12-23**] 03:49 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: PPI
   VAP: Protocol in place for VAP
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2122-12-27 07:45:00 Physician Resident Progress Note
Chief Complaint: 83 yo M w/ h/o congenital deafness, HTN, DM, CAD,
   osteoarthritis and L subclavian steal syndrome admitted s/p ERCP for
   cholangitis now with ARF s/p  resp failure.
   24 Hour Events:
   [**2122-12-25**]
   -Extubated in am but re-intubated [**12-21**] wheeze despite heliox, nebs,
   steroids.  Reintubation complicated by intubation into esophagus with
   aspiration as lg amts bile suctioned from lungs after placement of ETT
   in trachea.
   -Per renal- if can do CVVH taking 50cc off per hour, and BP stable,
   could be candidate for HD Sat or mon. Talking to attg re: ability for
   contrast and CT. Also, weigh risks and benefits of contrast PRN.
   -Per ERCP fellow- has ileus. Likely needs to wait it out. Consider TPN.
   KUB consist with ileus. Could possibly have abscess but would need CT
   for that (best would be with IV contrast). Hard abd is stable since
   admission.
   -Hypotensive around midnight. Stopped taking fluid off with CVVH and
   placed back on Levo.
   ____________________________________________
   [**2122-12-26**]
   - CT abd/pelvis w/ PO contrast WET READ showed pancreatitis (can't
   determine if necrosis without IV contrast), no evidence of obstruction
   or dilation of bowel, small pleural effusions and atelectasis, possibly
   small focal colonic wall thickening, 3rd spacing with edema,
   retroperitoneal fluid and trace free fluid in pelvis and sm amt
   ascites.
   - Per attg, thinks C diff likely with WBC count so high. Started [**12-25**] on
   empiric flagyl.
   - CVVH continued but unable to take off fluid as continued pressor
   requirement weaned off at approx 8p.
   -PPN ordered. Plan transition to TPN
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-12-26**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-27**] 02:45 AM
   Metronidazole - [**2122-12-27**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-12-27**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 93 (79 - 112) bpm
   BP: 137/64(88) {81/46(59) - 160/126(140)} mmHg
   RR: 10 (7 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.7 kg (admission): 81.8 kg
   Height: 65 Inch
    CVP: 11 (10 - 13)mmHg
   Total In:
                                                                  3,257 mL
                                                                  1,147 mL
   PO:
   TF:
   IVF:
                                                                  2,507 mL
                                                                  1,147 mL
   Blood products:
   Total out:
                                                                  4,475 mL
                                                                  2,047 mL
   Urine:
                                                                     10 mL
                                                                     25 mL
   NG:
                                                                    800 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,218 mL
                                                                   -900 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 854 (554 - 961) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 19
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.38/32/92.[**Numeric Identifier 132**]/18/-4
   Ve: 14.8 L/min
   PaO2 / FiO2: 186
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Distended, No bowel sounds
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   221 K/uL
   8.8 g/dL
   242 mg/dL
   1.8 mg/dL
   18 mEq/L
   4.5 mEq/L
   31 mg/dL
   101 mEq/L
   133 mEq/L
   26.7 %
   38.9 K/uL
        [image002.jpg]
                             [**2122-12-26**]  04:02 AM
                             [**2122-12-26**]  09:48 AM
                             [**2122-12-26**]  10:48 AM
                             [**2122-12-26**]  12:00 PM
                             [**2122-12-26**]  05:06 PM
                             [**2122-12-26**]  05:33 PM
                             [**2122-12-26**]  09:45 PM
                             [**2122-12-26**]  09:52 PM
                             [**2122-12-27**]  03:50 AM
                             [**2122-12-27**]  03:54 AM
   WBC
   40.0
   38.9
   Hct
   29.4
   26.7
   Plt
   230
   221
   Cr
   1.8
   1.9
   1.8
   TCO2
   20
   20
   20
   20
   Glucose
   195
   171
   376
   153
   201
   242
   Other labs: PT / PTT / INR:12.9/80.2/1.1, CK / CKMB /
   Troponin-T:103/7/0.23, ALT / AST:44/36, Alk Phos / T Bili:104/0.6,
   Amylase / Lipase:132/18, Differential-Neuts:90.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 5503**] ng/mL, Lactic
   Acid:1.2 mmol/L, LDH:421 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   83 yo M w/ h/o congenital deafness, HTN, DM, CAD, osteoarthritis and L
   subclavian steal syndrome admitted s/p ERCP for cholangitis now with
   ARF s/p  resp failure.
   # Resp failure:  Initially intubated on [**12-22**] because of MSK respiratory
   fatigue in setting of metabolic acidosis with respiratory
   compensation.  Pt did well on [**3-23**] and with trial of 5/0 in am [**12-25**] and
   was extubated. Subsequently, pt with significant wheeze although has O2
   sat in high 90
s- tried heliox, nebs, steroids but was ultimately
   reintubated for concern for MSK respiratory fatigue.  Wheezes may have
   been caused by pulmonary edema.
   -Maintain pressure support
   -nebs ATC
   - prolonged 5/0 trial in a.m. on [**2122-12-28**] with plan for extubation
   - I/O goal of -1L
    # [**Last Name (un) **] on CKD: Pt has history of CKD with a baseline Creatinine of
   1.7-1.9. Pt's Creatinine peaked at 6.0 prior to starting CVVH [**12-22**] .
   Still? etiology of ARF with absence of muddy brown casts originally on
   microscopic urine exam.  Has R subclav  in place for HD
   - Renally dosing meds incl Vanco Q 24 while on CVVH.
   - Avoid nephrotoxins
   - Will currently hold on AEI and [**Last Name (un) **] therapy
   -F/u any other renal recs
   -Will try to remove fluids with CVVH
    #Leukocytosis:  WBC count peaked at approximately 40.  Possible
   etiologies include abscess in abdomen, C diff, PNA (CXR not with sign
   evidence of infxn).  Cultures remain negative
   - CT abd/pelvis w/ PO contrast WET READ showed pancreatitis (can't
   determine if necrosis without IV contrast), no evidence of obstruction
   or dilation of bowel, small pleural effusions and atelectasis, Possibly
   small focal colonic wall thickening, 3rd spacing with edema,
   retroperitoneal fluid and trace free fluid in pelvis and sm amt
   ascites, nothing tapable.
   - continue to culture for fevers
   - f/u c diff if has any stools
   - continue flagyl empirically for c. diff, zosyn and vanc for
   pancreatitis/cholangitis
   - Culture from all lines pending
   # Pancreatitis/Cholangitis: Pt noted to have cholangitis and
   pancreatitis on ERCP examination, two stones were extracted from the
   ampulla and common hepatic duct, a sphincterotomy was performed [**12-19**].
   ERCP fellow [**12-24**] stated still has ileus s/p procedure and no further tx
   for this. Abd CT without evidence of perf, abscess, tapable fluid
   collection, CDiff
   - LFTs continuing downward trend
   - Will continue vanc/  Zosyn/flagyl for enteric coverage at renal
   dosing
   - NPO continued for now but starting TPN today
   # Hypotension: After ERCP [**12-19**] pt was noted to be hypotensive to the
   SBP 70s, on arrival to the floor pt was on pressor support however
   after transfer to his bed his MAPs were noted to be >65 without pressor
   support.  Pt again hypotensive \ not responsive to fluids.  ? etiology
   cardiac ischemia with continuing CK and trop elevation, PE, tamponade
   (but EKG unchanged), sepsis. Off levo since am [**12-23**]. ? PE. Bilat LENI
   [**12-21**] neg, bedside echo with no sign RV strain. Have not yet done CTA
   given ARF. Levo restarted [**12-26**] early in am. Pt unable to be weaned yet
   today, no fluid being removed by CVVH
   -heparin gtt until V/Q  scan or CTA able to be performed once pt is
   stable
   -f/u cultures
   # ?Pulmonary embolism:  Will continue heparin and consider chest CTA
   when renal function returns to baseline
   # DM II: Per [**Name (NI) 2040**] pt usually takes Glyburide 5mg once a day, On insulin
   for now.
   - Check CBGs QID
   - Will continue ISS
   - Will transition back to Glyburide prior to discharge
   - Will currently hold ACEI and [**Last Name (un) **] therapy given pt's current [**Last Name (un) **].
   # systolic CHF: Pt on afterload therapy with Lisinopril and Valsartan
   per [**Last Name (un) 2040**]. TTE [**12-21**] with moderate LVH, LVEF 45-50%
   - Will currently hold ACEI and [**Last Name (un) **] as pt has [**Last Name (un) **], hypotension
   - Consider restarting BB when  BP stable
   # Access: A line,  CVL , subclav HD line placed [**12-23**].
   # PPx: Lansoprazole, Heparin gtt.
   # Code:  FULL CODE
   # Comm: (Son) [**Name (NI) 5449**] [**Telephone/Fax (1) 5450**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2122-12-21**] 08:00 PM
   Arterial Line - [**2122-12-22**] 08:53 AM
   Dialysis Catheter - [**2122-12-23**] 03:49 PM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FC
   Disposition:

2122-12-27 11:16:00 Physician Attending Progress Note
Chief Complaint: Cholangitis
   Respiratory Failure
   Acute Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with CT showing absence of new collection or infection
   Negative fluid balance effected on CVVH with blood pressure continued
   stable
   Patient with good alertness this morning on exam
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-12-26**] 10:00 PM
   Metronidazole - [**2122-12-27**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-27**] 07:43 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Heparin Sodium - 850 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2122-12-27**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.5
   HR: 100 (79 - 112) bpm
   BP: 140/61(88) {81/46(59) - 160/126(140)} mmHg
   RR: 20 (7 - 20) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.7 kg (admission): 81.8 kg
   Height: 65 Inch
   CVP: 11 (10 - 13)mmHg
   Total In:
                                                                  3,258 mL
                                                                  2,475 mL
   PO:
   TF:
   IVF:
                                                                  2,508 mL
                                                                  1,516 mL
   Blood products:
   Total out:
                                                                  4,475 mL
                                                                  2,874 mL
   Urine:
                                                                     10 mL
                                                                     25 mL
   NG:
                                                                    800 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,217 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 753 (554 - 961) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 19
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.38/32/92.[**Numeric Identifier 132**]/18/-4
   Ve: 14 L/min
   PaO2 / FiO2: 186
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   221 K/uL
   215 mg/dL
   1.8 mg/dL
   18 mEq/L
   4.4 mEq/L
   31 mg/dL
   101 mEq/L
   133 mEq/L
   26.7 %
   38.9 K/uL
        [image002.jpg]
                             [**2122-12-26**]  09:48 AM
                             [**2122-12-26**]  10:48 AM
                             [**2122-12-26**]  12:00 PM
                             [**2122-12-26**]  05:06 PM
                             [**2122-12-26**]  05:33 PM
                             [**2122-12-26**]  09:45 PM
                             [**2122-12-26**]  09:52 PM
                             [**2122-12-27**]  03:50 AM
                             [**2122-12-27**]  03:54 AM
                             [**2122-12-27**]  09:43 AM
   WBC
   38.9
   Hct
   26.7
   Plt
   221
   Cr
   1.9
   1.8
   TCO2
   20
   20
   20
   20
   Glucose
   171
   376
   153
   [**Telephone/Fax (3) 5625**]
   Other labs: PT / PTT / INR:12.9/80.2/1.1, CK / CKMB /
   Troponin-T:103/7/0.23, ALT / AST:44/36, Alk Phos / T Bili:104/0.6,
   Amylase / Lipase:132/18, Differential-Neuts:90.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 5503**] ng/mL, Lactic
   Acid:1.2 mmol/L, LDH:421 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   83 yo male with initial insult of biliary obstruction and pancreatitis
   associated.  He had sepsis with renal failure following which has
   remained with quite dense renal failure and anuria.  He had persistent
   volume overload despite normal CVP at extubation and will need to
   maintain continued negative fluid balance with CVVH going forward as
   primary insult leading to re-intubation.  Somewhat reassuring is the
   capacity to remove fluid further.
   1)Respiratory Failure-
   -Continue with negative fluid balance today
   -Will support in PSV
   -Move to evaluate with RSBI and SBT in am if mental status persists as
   good will consider extubation trial in am
 PULMONARY EMBOLISM (PE), ACUTE
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    Ileus--no obstruction on CT scan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)-
   -Continue CVVH
   -Hope for return of renal function
    SEPSIS- This is associated with significant elevation in WBC
   count--concern for C. Diff--alternative sources not seen.  He does have
   persistent moderate acute pancreatitis
   -Continue with C. Diff treatment
   -Vanco/Zosyn
   -Flagyl for C. Diff
   -IVF as needed but hope to be able to maintain negative fluid balance
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2122-12-27**] 12:00 AM 83 mL/hour
will
   have to consider post pyloric feeding if continued pancreatitis seen
   and return of bowel function suggested.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2122-12-21**] 08:00 PM
   Arterial Line - [**2122-12-22**] 08:53 AM
   Dialysis Catheter - [**2122-12-23**] 03:49 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2122-12-28 07:55:00 Physician Resident Progress Note
Chief Complaint: Cholangitis, sepsis, hypoxia
   24 Hour Events:
   -CXR in a.m. on [**12-26**] (after rounds) showed left pleural effusion
   -will start 5/0 PS trial at 4a.m. (pls confirm this was done, i'm not
   certain)
   -got bisacodyl PR with no BM response
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-27**] 07:45 PM
   Vancomycin - [**2122-12-27**] 08:45 PM
   Metronidazole - [**2122-12-28**] 04:30 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Heparin Sodium - 850 units/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Fentanyl - [**2122-12-27**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-12-28**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 97 (85 - 115) bpm
   BP: 102/55(71) {94/45(60) - 153/89(101)} mmHg
   RR: 19 (9 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.7 kg (admission): 81.8 kg
   Height: 65 Inch
    CVP: 9 (9 - 12)mmHg
   Total In:
                                                                  5,313 mL
                                                                  1,924 mL
   PO:
   TF:
   IVF:
                                                                  3,692 mL
                                                                  1,593 mL
   Blood products:
   Total out:
                                                                  7,916 mL
                                                                    840 mL
   Urine:
                                                                     25 mL
                                                                     14 mL
   NG:
                                                                    500 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,603 mL
                                                                  1,084 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 634 (476 - 894) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 28
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.41/38/123/22/-3
   Ve: 8.5 L/min
   PaO2 / FiO2: 246
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Tactile
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   212 K/uL
   9.0 g/dL
   107 mg/dL
   1.6 mg/dL
   22 mEq/L
   3.8 mEq/L
   27 mg/dL
   103 mEq/L
   135 mEq/L
   27.8 %
   38.2 K/uL
        [image002.jpg]
                             [**2122-12-26**]  12:00 PM
                             [**2122-12-26**]  05:06 PM
                             [**2122-12-26**]  05:33 PM
                             [**2122-12-26**]  09:45 PM
                             [**2122-12-26**]  09:52 PM
                             [**2122-12-27**]  03:50 AM
                             [**2122-12-27**]  03:54 AM
                             [**2122-12-27**]  09:43 AM
                             [**2122-12-27**]  03:45 PM
                             [**2122-12-28**]  03:50 AM
   WBC
   38.9
   38.2
   Hct
   26.7
   27.8
   Plt
   221
   212
   Cr
   1.9
   1.8
   1.7
   1.6
   TCO2
   20
   20
   20
   22
   Glucose
   376
   153
   201
   [**Telephone/Fax (3) 5635**]
   107
   Other labs: PT / PTT / INR:13.6/84.0/1.2, CK / CKMB /
   Troponin-T:103/7/0.23, ALT / AST:33/35, Alk Phos / T Bili:99/0.7,
   Amylase / Lipase:132/18, Differential-Neuts:90.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 5503**] ng/mL, Lactic
   Acid:1.2 mmol/L, LDH:452 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   83 yo M w/ h/o congenital deafness, HTN, DM, CAD, osteoarthritis and L
   subclavian steal syndrome admitted s/p ERCP for cholangitis now with
   ARF s/p  resp failure.
   # Resp failure:  Initially intubated on [**12-22**] because of MSK respiratory
   fatigue in setting of metabolic acidosis with respiratory
   compensation.  Pt did well on [**3-23**] and with trial of 5/0 in am [**12-25**] and
   was extubated. Subsequently, pt with significant wheeze although has O2
   sat in high 90
s- tried heliox, nebs, steroids but was ultimately
   reintubated for concern for MSK respiratory fatigue.  Wheezes may have
   been caused by pulmonary edema.
   -Maintain pressure support
   -nebs ATC
   - prolonged 5/0 trial in a.m. on [**2122-12-28**] with plan for extubation
   - I/O goal of -1L
    # [**Last Name (un) **] on CKD: Pt has history of CKD with a baseline Creatinine of
   1.7-1.9. Pt's Creatinine peaked at 6.0 prior to starting CVVH [**12-22**] .
   Still? etiology of ARF with absence of muddy brown casts originally on
   microscopic urine exam.  Has R subclav  in place for HD
   - Renally dosing meds incl Vanco Q 24 while on CVVH.
   - Avoid nephrotoxins
   - Will currently hold on AEI and [**Last Name (un) **] therapy
   -F/u any other renal recs
   -Will try to remove fluids with CVVH
    #Leukocytosis:  WBC count peaked at approximately 40.  Possible
   etiologies include abscess in abdomen, C diff, PNA (CXR not with sign
   evidence of infxn).  Cultures remain negative
   - CT abd/pelvis w/ PO contrast WET READ showed pancreatitis (can't
   determine if necrosis without IV contrast), no evidence of obstruction
   or dilation of bowel, small pleural effusions and atelectasis, Possibly
   small focal colonic wall thickening, 3rd spacing with edema,
   retroperitoneal fluid and trace free fluid in pelvis and sm amt
   ascites, nothing tapable.
   - continue to culture for fevers
   - f/u c diff if has any stools
   - continue flagyl empirically for c. diff, zosyn and vanc for
   pancreatitis/cholangitis
   - Culture from all lines pending
   # Pancreatitis/Cholangitis: Pt noted to have cholangitis and
   pancreatitis on ERCP examination, two stones were extracted from the
   ampulla and common hepatic duct, a sphincterotomy was performed [**12-19**].
   ERCP fellow [**12-24**] stated still has ileus s/p procedure and no further tx
   for this. Abd CT without evidence of perf, abscess, tapable fluid
   collection, CDiff
   - LFTs continuing downward trend
   - Will continue vanc/  Zosyn/flagyl for enteric coverage at renal
   dosing
   - NPO continued for now but starting TPN today
   # Hypotension: After ERCP [**12-19**] pt was noted to be hypotensive to the
   SBP 70s, on arrival to the floor pt was on pressor support however
   after transfer to his bed his MAPs were noted to be >65 without pressor
   support.  Pt again hypotensive \ not responsive to fluids.  ? etiology
   cardiac ischemia with continuing CK and trop elevation, PE, tamponade
   (but EKG unchanged), sepsis. Off levo since am [**12-23**]. ? PE. Bilat LENI
   [**12-21**] neg, bedside echo with no sign RV strain. Have not yet done CTA
   given ARF. Levo restarted [**12-26**] early in am. Pt unable to be weaned yet
   today, no fluid being removed by CVVH
   -heparin gtt until V/Q  scan or CTA able to be performed once pt is
   stable
   -f/u cultures
   # ?Pulmonary embolism:  Will continue heparin and consider chest CTA
   when renal function returns to baseline
   # DM II: Per [**Name (NI) 2040**] pt usually takes Glyburide 5mg once a day, On insulin
   for now.
   - Check CBGs QID
   - Will continue ISS
   - Will transition back to Glyburide prior to discharge
   - Will currently hold ACEI and [**Last Name (un) **] therapy given pt's current [**Last Name (un) **].
   # systolic CHF: Pt on afterload therapy with Lisinopril and Valsartan
   per [**Last Name (un) 2040**]. TTE [**12-21**] with moderate LVH, LVEF 45-50%
   - Will currently hold ACEI and [**Last Name (un) **] as pt has [**Last Name (un) **], hypotension
   - Consider restarting BB when  BP stable
   # Access: A line,  CVL , subclav HD line placed [**12-23**].
   # PPx: Lansoprazole, Heparin gtt.
   # Code:  FULL CODE
   # Comm: (Son) [**Name (NI) 5449**] [**Telephone/Fax (1) 5450**]
 PULMONARY EMBOLISM (PE), ACUTE
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    Ileus
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 PANCREATITIS, ACUTE
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   ICU Care
   Nutrition:
   TPN without Lipids - [**2122-12-27**] 05:55 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2122-12-21**] 08:00 PM
   Arterial Line - [**2122-12-22**] 08:53 AM
   Dialysis Catheter - [**2122-12-23**] 03:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2122-12-29 07:44:00 Physician Resident Progress Note
Chief Complaint: s/p ERCP, resp failure, ARF
   24 Hour Events:
 ARTERIAL LINE - STOP [**2122-12-28**] 09:32 AM
 INVASIVE VENTILATION - STOP [**2122-12-28**] 09:41 AM
   -Extubated in AM
   -Post extubation ABG's stable
   -Required norepinephrine briefly during the day for hypotension but
   weaned off prior to noon.
   -Agitated in PM, had ECG that was unchanged and CE's continue to trend
   down, received haloperidol with reasonable improvement.
   -o/n after suppository had small BM
   -TTE Suboptimal image quality. Normal biventricular cavity sizes with
   preserved global biventricular systolic function. No pathologic flow
   identified. Compared with the prior study (images reviewed) of [**2122-12-21**],
   the findings are similar.
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2122-12-29**] 04:00 AM
   Vancomycin - [**2122-12-29**] 05:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-29**] 07:34 AM
   Infusions:
   Heparin Sodium - 850 units/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**12-21**] language barrier
   Flowsheet Data as of  [**2122-12-29**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.9
C (96.6
   HR: 116 (84 - 124) bpm
   BP: 136/58(80) {69/30(46) - 209/85(115)} mmHg
   RR: 24 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.7 kg (admission): 81.8 kg
   Height: 65 Inch
    CVP: 9 (9 - 18)mmHg
   Total In:
                                                                  5,592 mL
                                                                  1,649 mL
   PO:
   TF:
   IVF:
                                                                  4,302 mL
                                                                  1,175 mL
   Blood products:
   Total out:
                                                                  4,965 mL
                                                                  1,369 mL
   Urine:
                                                                     17 mL
                                                                     50 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    627 mL
                                                                    280 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 622 (622 - 622) mL
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 34%
   SpO2: 100%
   ABG: 7.39/36/84.[**Numeric Identifier 1000**]/20/-2
   Ve: 20.9 L/min
   PaO2 / FiO2: 247
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   172 K/uL
   8.3 g/dL
   240 mg/dL
   1.8 mg/dL
   20 mEq/L
   3.6 mEq/L
   29 mg/dL
   103 mEq/L
   134 mEq/L
   25.5 %
   32.2 K/uL
        [image002.jpg]
                             [**2122-12-27**]  03:50 AM
                             [**2122-12-27**]  03:54 AM
                             [**2122-12-27**]  09:43 AM
                             [**2122-12-27**]  03:45 PM
                             [**2122-12-28**]  03:50 AM
                             [**2122-12-28**]  08:49 AM
                             [**2122-12-28**]  10:52 AM
                             [**2122-12-28**]  05:20 PM
                             [**2122-12-28**]  11:52 PM
                             [**2122-12-29**]  04:59 AM
   WBC
   38.9
   38.2
   32.2
   Hct
   26.7
   27.8
   25.5
   Plt
   221
   212
   172
   Cr
   1.8
   1.7
   1.6
   1.8
   TropT
   0.19
   TCO2
   20
   22
   23
   23
   Glucose
   [**Telephone/Fax (3) 5675**]07
   144
   127
   240
   Other labs: PT / PTT / INR:14.7/60.8/1.3, CK / CKMB /
   Troponin-T:71/4/0.19, ALT / AST:25/28, Alk Phos / T Bili:88/0.7,
   Amylase / Lipase:132/18, Differential-Neuts:95.0 %, Band:1.0 %,
   Lymph:2.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 5503**] ng/mL, Lactic
   Acid:1.2 mmol/L, LDH:407 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    Ileus
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 PANCREATITIS, ACUTE
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   83 yo M w/ h/o congenital deafness, HTN, DM, CAD, osteoarthritis and L
   subclavian steal syndrome admitted s/p ERCP for cholangitis now with
   ARF s/p  resp failure.
    # Resp failure:  Initial respiratory failure presumed due to volume
   overload in the setting of acute kidney injury and anuria.  Failed
   previous attempt at extubation due to wheezing and presumed continued
   fluid overload.  Currently, lungs are clear to auscultation bilaterally
   and CVVH was able to remove fluid yesterday.  Therefore presumed
   etiology of extubation failure reversed and patient had spontaneous
   breathing trial this AM with stable ventilation and oxygenation.
   -Extubate
   -nebs ATC
   - I/O goal of -1-2L
    # [**Last Name (un) **] on CKD: Pt has history of CKD with a baseline Creatinine of
   1.7-1.9. Pt's Creatinine peaked at 6.0 prior to starting CVVH [**12-22**] .
   Still? etiology of ARF with absence of muddy brown casts originally on
   microscopic urine exam.  Has R subclav  in place for HD.
   - Renally dosing meds incl Vanco Q 24 while on CVVH.
   - Avoid nephrotoxins
   - Will currently hold on AEI and [**Last Name (un) **] therapy
   -F/u any other renal recs
   -Will try to remove fluids with CVVH and discuss possibility of
   converting to HD
    #Leukocytosis:  WBC count peaked at approximately 40.  Cultures remain
   negative and CT showed no abcess or drainable fluid collection though
   continued pancreatitis.
   - continue to culture for fevers
   - f/u c diff if has any stools
   - continue flagyl empirically for c. diff, zosyn and vanc for
   pancreatitis/cholangitis
   -consider paracentesis for more fluid to examine
   - Culture from all lines pending
   # Pancreatitis/Cholangitis: Pt noted to have cholangitis and
   pancreatitis on ERCP examination, two stones were extracted from the
   ampulla and common hepatic duct, a sphincterotomy was performed [**12-19**].
   ERCP fellow [**12-24**] stated still has ileus s/p procedure and no further tx
   for this. Abd CT without evidence of perf, abscess, tapable fluid
   collection, CDiff
   - LFTs continuing downward trend
   - Will continue vanc/  Zosyn/flagyl for enteric coverage at renal
   dosing
   - NPO continued for now but starting TPN today
   # Hypotension: After ERCP [**12-19**] pt was noted to be hypotensive to the
   SBP 70s, on arrival to the floor pt was on pressor support however
   after transfer to his bed his MAPs were noted to be >65 without pressor
   support.  Pt again hypotensive \ not responsive to fluids.  ? etiology
   cardiac ischemia with continuing CK and trop elevation, PE, tamponade
   (but EKG unchanged), sepsis. Off levo since am [**12-23**]. ? PE. Bilat LENI
   [**12-21**] neg, bedside echo with no sign RV strain. Have not yet done CTA
   given ARF. Levo restarted [**12-26**] early in am. Pt unable to be weaned yet
   today, no fluid being removed by CVVH
   -heparin gtt until V/Q  scan or CTA able to be performed once pt is
   stable
   -f/u cultures
   # ?Pulmonary embolism:  Will continue heparin and consider chest CTA
   when renal function returns to baseline
   # DM II: Per [**Name (NI) 2040**] pt usually takes Glyburide 5mg once a day, On insulin
   for now.
   - Check CBGs QID
   - Will continue ISS
   - Will transition back to Glyburide prior to discharge
   - Will currently hold ACEI and [**Last Name (un) **] therapy given pt's current [**Last Name (un) **].
   # Systolic CHF: Pt on afterload therapy with Lisinopril and Valsartan
   per [**Last Name (un) 2040**]. TTE [**12-21**] with moderate LVH, LVEF 45-50%
   - Will currently hold ACEI and [**Last Name (un) **] as pt has [**Last Name (un) **], hypotension
   - Consider restarting BB when  BP stable
   # Access: A line,  CVL , subclav HD line placed [**12-23**].
   # PPx: Lansoprazole, Heparin gtt.
   # Code:  FULL CODE
   # Comm: (Son) [**Name (NI) 5449**] [**Telephone/Fax (1) 5450**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2122-12-28**] 05:50 PM 62.5 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2122-12-21**] 08:00 PM
   Dialysis Catheter - [**2122-12-23**] 03:49 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2122-12-30 07:30:00 Physician Resident Progress Note
Chief Complaint: cholangitis/sepsis s/p ERCP
   24 Hour Events:
 EKG - At [**2122-12-29**] 10:13 PM
   - got HD in the am. took off an additional 2 liters
   - plan to d/c vanco iv and zosyn in am after 12 days tx
   -ERCP recs started clear diet after small BM in afternoon (C diff not
   sent in error)
   - PT/OT ordered
   -Plan to go in am Thurs to IR for tunnelled HD line
   -PICC ordered
   -Epo ordered per renal recs
   - fleets enema and suppository given
   - TPN continued
   Unable to communicate due to language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2122-12-29**] 07:34 AM
   Vancomycin - [**2122-12-29**] 08:40 PM
   Piperacillin - [**2122-12-30**] 02:00 AM
   Metronidazole - [**2122-12-30**] 03:34 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Shortness of breath
   Flowsheet Data as of  [**2122-12-30**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 98 (92 - 126) bpm
   BP: 93/38(52) {48/27(39) - 158/108(147)} mmHg
   RR: 21 (13 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.7 kg (admission): 81.8 kg
   Height: 65 Inch
    CVP: 14 (14 - 14)mmHg
   Total In:
                                                                  4,413 mL
                                                                  1,043 mL
   PO:
                                                                    300 mL
   TF:
   IVF:
                                                                  2,613 mL
                                                                    577 mL
   Blood products:
   Total out:
                                                                  7,163 mL
                                                                      0 mL
   Urine:
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,750 mL
                                                                  1,043 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.51/29/111/23/1
   Physical Examination
   HEENT: Benign
   CV: RRR, no M/R/G
   Pulm: Scattered wheezes bilaterally
   Abdomen: Distended, soft, diminished BS bilaterally
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Extremities: Trace edema bilaterally
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   247 K/uL
   6.9 g/dL
   124 mg/dL
   2.3 mg/dL
   23 mEq/L
   3.6 mEq/L
   27 mg/dL
   105 mEq/L
   139 mEq/L
   22.1 %
   32.2 K/uL
        [image002.jpg]
                             [**2122-12-27**]  09:43 AM
                             [**2122-12-27**]  03:45 PM
                             [**2122-12-28**]  03:50 AM
                             [**2122-12-28**]  08:49 AM
                             [**2122-12-28**]  10:52 AM
                             [**2122-12-28**]  05:20 PM
                             [**2122-12-28**]  11:52 PM
                             [**2122-12-29**]  04:59 AM
                             [**2122-12-29**]  10:21 PM
                             [**2122-12-30**]  03:59 AM
   WBC
   38.2
   32.2
   Hct
   27.8
   25.5
   22.1
   Plt
   [**Telephone/Fax (3) 5692**]
   Cr
   1.7
   1.6
   1.8
   2.3
   TropT
   0.19
   TCO2
   22
   23
   23
   24
   Glucose
   [**Telephone/Fax (3) 5693**]44
   127
   240
   124
   Other labs: PT / PTT / INR:15.9/150.0/1.4, CK / CKMB /
   Troponin-T:71/4/0.19, ALT / AST:25/31, Alk Phos / T Bili:77/0.7,
   Amylase / Lipase:132/18, Differential-Neuts:95.0 %, Band:1.0 %,
   Lymph:2.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 5503**] ng/mL, Lactic
   Acid:1.2 mmol/L, LDH:407 IU/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    Ileus
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 PANCREATITIS, ACUTE
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)0
 PULMONARY EMBOLISM (PE), ACUTE
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    Ileus
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 OLIGURIA/ANURIA
 PANCREATITIS, ACUTE
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   83 yo M w/ h/o congenital deafness, HTN, DM, CAD, osteoarthritis and L
   subclavian steal syndrome admitted s/p ERCP for cholangitis now with
   ARF s/p  resp failure.
   # s/p Resp failure:  Initial respiratory failure presumed due to volume
   overload, metabolic acidosis with fatigue [**12-21**] resp compensation in the
   setting of acute kidney injury and anuria.  Failed first attempt at
   extubation due to wheezing and presumed continued fluid overload.
   Currently, lungs are mildly wheezy again but patient has good O2 sats
   and doesn
t appear labored in breathing.
   -Continue ATC nebs, add budesonide nebs for possible
   reactive/inflammatory component (nebs necessary due to difficulties in
   coordination and directing this patient due to language barrier)
   -Attempt to maintain even fluid balance over course of day
   # [**Last Name (un) **] on CKD: Pt has history of CKD with a baseline Creatinine of
   1.7-1.9. Pt's Creatinine peaked at 6.0 prior to starting CVVH [**12-22**] .
   Still? etiology of ARF with absence of muddy brown casts originally on
   microscopic urine exam.  Has R subclav  in place for HD.
   - Renally dosing meds incl Vanco Q 24 while on CVVH.
   -avoid nephrotoxins
   - Will currently hold on AEI and [**Last Name (un) **] therapy
   -On HD and BP
s are tolerating
   - tunneled HD line planned in IR on Thurs.
   #Leukocytosis/C difficile colitis:  WBC count peaked at approximately
   40.  Cultures remain negative and CT showed no abcess or drainable
   fluid collection though continued pancreatitis.  Presumed etiology is
   C. diff.   .
   - continue to culture for fevers
   - C diff sent now that [**Last Name (LF) 5699**], [**First Name3 (LF) **] follow results
   - continue flagyl and PO vanco empirically for c. diff (anticipate 14
   day course) could stop metronidazole once confirmed diagnosis
    # Pancreatitis/Cholangitis: Pt noted to have cholangitis and
   pancreatitis on ERCP examination, two stones were extracted from the
   ampulla and common hepatic duct, a sphincterotomy was performed [**12-19**].
   ERCP fellow [**12-24**] stated still has ileus s/p procedure and no further tx
   for this. Abd CT [**12-26**] without evidence of perf, abscess, tapable fluid
   collection, Cdiff. LFTs normalized as of [**12-29**]
   - Today is last day of vancomycin/pip-tazo treatment for cholangitis
   - patient tolerating clear liquids, will continue to monitor
    # Hypotension: After ERCP [**12-19**] pt was noted to be hypotensive to the
   SBP 70s, on arrival to the floor pt was on pressor support however
   after transfer to his bed his MAPs were noted to be >65 without pressor
   support.  Pt again hypotensive \ not responsive to fluids.  ? etiology
   cardiac ischemia with continuing CK and trop elevation, PE, tamponade
   (but EKG unchanged), sepsis. Off levo since am [**12-23**]. ? PE. Bilat LENI
   [**12-21**] neg, bedside echo with no sign RV strain. Have not yet done CTA
   given ARF. Levo restarted [**12-26**] through [**12-28**].
   -heparin gtt for now- likely committed to 9 mo anticoagulation for PE
   at this pt.
    # ?Pulmonary embolism:  Will continue heparin and likely committed to
   9 mo anticoagulation.
    # DM II: Per [**Name (NI) 2040**] pt usually takes Glyburide 5mg once a day, On insulin
   for now.
   - Check CBGs QID
   - Will continue ISS
   - Will transition back to Glyburide prior to discharge
   - Will currently hold ACEI and [**Last Name (un) **] therapy given pt's current [**Last Name (un) **].
    # Systolic CHF: Pt on afterload therapy with Lisinopril and Valsartan
   per [**Last Name (un) 2040**]. TTE [**12-21**] with moderate LVH, LVEF 45-50% and essentially
   unchanged on recheck [**12-28**]
   - Will currently hold ACEI and [**Last Name (un) **] as pt has [**Last Name (un) **], hypotension
   - Consider restarting BB when  BP stable
   # Access: A line,  CVL , subclav HD line placed [**12-23**], PICC has been
   placed
   # PPx: Lansoprazole, Heparin gtt.
   # Code:  FULL CODE
   # Comm: (Son) [**Name (NI) 5449**] [**Telephone/Fax (1) 5450**]
   #Dispo: Call out to floor today.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2122-12-29**] 05:47 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2122-12-21**] 08:00 PM
   Dialysis Catheter - [**2122-12-23**] 03:49 PM
   Prophylaxis:
   DVT:  therapeutic heparin
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition:Call out to floor